2129-01-08 07:57:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 MULTI LUMEN - START [**2129-1-7**] 04:28 PM
 FEVER - 101.6
F - [**2129-1-7**] 04:00 PM
   - HCT overall stable
   - Given CVL
   - GI - nonemergent scope
   - GPCs growing in blood, started on vanc
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Unknown;
   Last dose of Antibiotics:
   Ciprofloxacin - [**2129-1-7**] 08:00 PM
   Metronidazole - [**2129-1-8**] 12:00 AM
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2129-1-7**] 10:21 AM
   Lorazepam (Ativan) - [**2129-1-7**] 11:00 PM
   Hydromorphone (Dilaudid) - [**2129-1-8**] 02:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Gastrointestinal: Abdominal pain
   Flowsheet Data as of  [**2129-1-8**] 07:57 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.7
C (101.6
   Tcurrent: 37.6
C (99.6
   HR: 100 (87 - 107) bpm
   BP: 115/66(78) {86/52(64) - 139/87(101)} mmHg
   RR: 20 (14 - 25) insp/min
   SpO2: 93%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                  1,179 mL
                                                                    514 mL
   PO:
             TF:
   IVF:
                                                                  1,179 mL
                                                                    514 mL
   Blood products:
   Total out:
                                                                  2,085 mL
                                                                    870 mL
   Urine:
                                                                  1,960 mL
                                                                    870 mL
   NG:
   Stool:
                                                                    125 mL
   Drains:
   Balance:
                                                                   -906 mL
                                                                   -356 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 93%
   ABG: ///27/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Tender: RLQ and LLQ, no guarding/rigidity
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   170 K/uL
   10.4 g/dL
   96 mg/dL
   0.7 mg/dL
   27 mEq/L
   3.2 mEq/L
   6 mg/dL
   101 mEq/L
   134 mEq/L
   31.2 %
   11.4 K/uL
        [image002.jpg]
                             [**2129-1-7**]  07:35 AM
                             [**2129-1-7**]  01:57 PM
                             [**2129-1-7**]  05:12 PM
                             [**2129-1-7**]  10:13 PM
                             [**2129-1-8**]  04:05 AM
   WBC
   13.2
   11.4
   Hct
   33.5
   33.0
   30.6
   30.7
   31.2
   Plt
   191
   170
   Cr
   0.7
   0.7
   TropT
   0.01
   <0.01
   Glucose
   114
   96
   Other labs: PT / PTT / INR:17.9/38.1/1.6, CK / CKMB /
   Troponin-T:236/3/<0.01, ALT / AST:15/33, Alk Phos / T Bili:93/0.7,
   Albumin:2.9 g/dL, LDH:127 IU/L, Ca++:7.8 mg/dL, Mg++:1.2 mg/dL, PO4:2.2
   mg/dL
   Assessment and Plan
   72 y/o gentleman with h/o gastric ulcer bleed s/p surgery, CAD, HTN, ?
   Hep C infection presents with BRBPR.
   .
   # GIB:  Most likely from colitis.  Cannot rule out small vessel
   ischemia, however large vessels were patent in prelim read of CT.
   Infectious and inflammatory process will also be on the differential.
   Patient has a history of gastric ulcers however current presentation is
   less likely to be due to UGIB.
   - q8h HCT
   - pt has CVL
   - T&C 4 units
   - IV PPI [**Hospital1 **]
   -monitor hemodynamically
   #Colitis:
   - send for c diff and stool cultures
   - f/[**Initials (NamePattern4) **] [**Last Name (NamePattern4) 91**] recs
   - pain control with IV meds
   - NPO for now
   .
   # ? Hep C infection:
   - will check HCV Ab and viral load
   .
   # h/o CAD:  CP c/w chronic angina symptoms.  EKG without any acute
   changes.
   - hold ASA in the setting of GIB
   .
   # FEN: NPO for now; replete lytes prn
   .
   # PPx: Pneumoboots; PPI
   .
   # Contact: [**Name (NI) 4754**]: MCI [**Name (NI) 3922**] [**Telephone/Fax (1) 4755**].  Next of
   [**Name (NI) **] sister [**Name (NI) 313**] [**Name (NI) 807**] [**Telephone/Fax (1) 4756**]
   .
   # Code: Full Code, confirmed with patient
   .
   # Dispo: call out to floor
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2129-1-7**] 08:19 AM
   Multi Lumen - [**2129-1-7**] 04:28 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2129-01-08 10:42:00 Physician Attending Progress Note
Chief Complaint: BRBPR
   HPI:
   Admitted for GIB
   24 Hour Events:
   No blood transfusions, Hct has been stable.
   GI saw him, plan for scope possibly on Monday.
   Blood culture with GPC , started Vanc this morning.
   +fever
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2129-1-8**] 07:04 AM
   Ciprofloxacin - [**2129-1-8**] 08:04 AM
   Metronidazole - [**2129-1-8**] 08:04 AM
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2129-1-7**] 10:21 AM
   Lorazepam (Ativan) - [**2129-1-7**] 11:00 PM
   Hydromorphone (Dilaudid) - [**2129-1-8**] 08:03 AM
   Other medications:
   Protonix, Lido patch,
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fever
   Nutritional Support: NPO
   Gastrointestinal: Abdominal pain
   Musculoskeletal: Joint pain
   Heme / Lymph: Anemia
   Flowsheet Data as of  [**2129-1-8**] 10:41 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.7
C (101.6
   Tcurrent: 36.6
C (97.8
   HR: 93 (87 - 107) bpm
   BP: 114/71(80) {86/53(64) - 139/87(101)} mmHg
   RR: 23 (15 - 31) insp/min
   SpO2: 95% on 3L
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  1,182 mL
                                                                  1,388 mL
   PO:
             TF:
   IVF:
                                                                  1,182 mL
                                                                  1,388 mL
   Blood products:
   Total out:
                                                                  2,085 mL
                                                                  1,210 mL
   Urine:
                                                                  1,960 mL
                                                                  1,210 mL
   NG:
   Stool:
                                                                    125 mL
   Drains:
   Balance:
                                                                   -903 mL
                                                                    178 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ///27/
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : ,
   Crackles : bibasilar)
   Abdominal: Soft, Bowel sounds present, Tender: LLQ, RLQ, no guarding or
   rebound
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   10.4 g/dL
   170 K/uL
   96 mg/dL
   0.7 mg/dL
   27 mEq/L
   3.2 mEq/L
   6 mg/dL
   101 mEq/L
   134 mEq/L
   31.2 %
   11.4 K/uL
        [image002.jpg]
                             [**2129-1-7**]  07:35 AM
                             [**2129-1-7**]  01:57 PM
                             [**2129-1-7**]  05:12 PM
                             [**2129-1-7**]  10:13 PM
                             [**2129-1-8**]  04:05 AM
   WBC
   13.2
   11.4
   Hct
   33.5
   33.0
   30.6
   30.7
   31.2
   Plt
   191
   170
   Cr
   0.7
   0.7
   TropT
   0.01
   <0.01
   Glucose
   114
   96
   Other labs: PT / PTT / INR:17.9/38.1/1.6, CK / CKMB /
   Troponin-T:236/3/<0.01, ALT / AST:15/33, Alk Phos / T Bili:93/0.7,
   Albumin:2.9 g/dL, LDH:127 IU/L, Ca++:7.8 mg/dL, Mg++:1.2 mg/dL, PO4:2.2
   mg/dL
   Assessment and Plan
   72 yom with h/o gastric ulcer, CAD, HTN admitted with BRBPR with
   colitis on  CT.
   1)GI- colitis, ddx still includes infectious, ischemic and
   inflammatory. Treating with cipro/flagyl. Slow associated GIB- Hcts
   have been stable, decrease frequency of checks to q8. Has central line.
   F/u stool culture, CDiff. GI consulting, plan for possible colonoscopy
   on Monday.
   2)Neuro- c/o abdominal and back pain, will try to switch to po pain
   meds if okay with GI.
   3)CV- h/o CAD, holding aspirin in setting of GIB.
   4)Liver- ?HCV infection, checking ab and VL.
   5)ICU- PPI, boots, full code. will d/c central line if peripheral
   access and call out to floor.
   6)FEN- replete K, Mg
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2129-1-7**] 08:19 AM
   Multi Lumen - [**2129-1-7**] 04:28 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition :
   Total time spent:

2129-01-09 08:48:00 Physician Attending Progress Note
Chief Complaint: a-fib, RVR
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   72M - admitted [**1-7**], on MICU green, lower GI bleed, no transfusions
   needed, abd CT showed colitis, tranferred to floor yesterday, developed
   rapid AF this AM with HR climbing to 170. Given lopressor and 2 L IVF
   for BP in 90's.
   On diltiazem gtt now.
   24 Hour Events:
 MULTI LUMEN - STOP [**2129-1-8**] 03:15 PM
 MULTI LUMEN - START [**2129-1-9**] 06:35 AM
 CALLED OUT
   History obtained from Patient
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2129-1-8**] 07:04 AM
   Ciprofloxacin - [**2129-1-8**] 08:04 AM
   Metronidazole - [**2129-1-9**] 08:10 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2129-1-8**] 12:00 PM
   Diltiazem - [**2129-1-9**] 06:43 AM
   Other medications:
   Changes to medical and family history:
   PUD - surgery on [**2099**]'s
   ? hepC
   CAD - MI [**2119**]
   HTN
   UTI
   h/o IVDA
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Respiratory: Dyspnea
   Gastrointestinal: Abdominal pain
   Flowsheet Data as of  [**2129-1-9**] 08:48 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 37.4
C (99.3
   HR: 121 (85 - 127) bpm
   BP: 103/60(49) {103/59(49) - 132/85(96)} mmHg
   RR: 19 (17 - 24) insp/min
   SpO2: 97%
   Heart rhythm: AF (Atrial Fibrillation)
             Total In:
                                                                  1,905 mL
                                                                    228 mL
   PO:
             TF:
   IVF:
                                                                  1,905 mL
                                                                    228 mL
   Blood products:
   Total out:
                                                                  1,620 mL
                                                                    150 mL
   Urine:
                                                                  1,620 mL
                                                                    150 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    285 mL
                                                                     78 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: 3 LPM
   SpO2: 97%
   ABG: 7.43/40/72//1
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Crackles : )
   Abdominal: Tender: epigastium
   Skin:  Not assessed
   Neurologic: Attentive, Responds to: Not assessed, Oriented (to): x3,
   Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   10.4 g/dL
   170 K/uL
   96 mg/dL
   0.7 mg/dL
   30 mEq/L
   3.1 mEq/L
   6 mg/dL
   101 mEq/L
   134 mEq/L
   29.8 %
   11.4 K/uL
        [image002.jpg]
                             [**2129-1-7**]  07:35 AM
                             [**2129-1-7**]  01:57 PM
                             [**2129-1-7**]  05:12 PM
                             [**2129-1-7**]  10:13 PM
                             [**2129-1-8**]  04:05 AM
                             [**2129-1-8**]  02:17 PM
                             [**2129-1-9**]  07:52 AM
   WBC
   13.2
   11.4
   Hct
   33.5
   33.0
   30.6
   30.7
   31.2
   29.8
   30.6
   Plt
   191
   170
   Cr
   0.7
   0.7
   TropT
   0.01
   <0.01
   TCO2
   27
   Glucose
   114
   96
   Other labs: PT / PTT / INR:17.9/38.1/1.6, CK / CKMB /
   Troponin-T:236/3/<0.01, ALT / AST:15/33, Alk Phos / T Bili:93/0.7,
   Lactic Acid:1.2 mmol/L, Albumin:2.9 g/dL, LDH:127 IU/L, Ca++:7.8 mg/dL,
   Mg++:1.2 mg/dL, PO4:2.2 mg/dL
   Fluid analysis / Other labs: 7.43/40/72   on 3 LPM
   Imaging: CXR with L>R reticular infiltrates
   abd CT with L>R basilar and peripheral honeycomb lung fibrosis
   ECG: AF
   Assessment and Plan
   GASTROINTESTINAL BLEED, LOWER (HEMATOCHEZIA, BRBPR, GI BLEED, GIB) -
   access OK, Hct stable, follow
   colitis - CDiff negative, complete 7 day course of cipro and flagyl
   A-fib - continue dilt gtt, volume resuscitate, follow EKG, enzymes,
   hold off on anticoag
   bacteremia -  follow-up cultures negative, CVL still in place, will
   replace with PICC, continue vanco for now
   lung fibrosis - likely IPF, also some asbestos exposure, eventually
   needs eval as outpatient
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2129-1-9**] 06:35 AM
   22 Gauge - [**2129-1-9**] 06:36 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 36 minutes
   Patient is critically ill

2129-01-10 06:12:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   [**1-9**] Events:
   - converted to NSR, transitioned to PO dilt, gtt stopped
   - PICC placed, IJ removed
   - CXR showing increasing edema, possible pneumonia
   - overnight developed mild hypoxia to low 80s on RA; gave 10 mg IV
   lasix with some improvement - best treatment was taping O2 NC to his
   face so he wouldn't take it off all night
   - stopped vanco because blood cult grew coag neg staph
   - changed cipro to levo for added lung converage
   - continued flagyl
 EKG - At [**2129-1-9**] 11:13 AM
 PICC LINE - START [**2129-1-9**] 12:00 PM
 BLOOD CULTURED - At [**2129-1-9**] 12:12 PM
   2 sets
 MULTI LUMEN - STOP [**2129-1-9**] 12:45 PM
 STOOL CULTURE - At [**2129-1-9**] 04:12 PM
   c-diff
 EKG - At [**2129-1-9**] 04:13 PM
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2129-1-9**] 09:40 AM
   Ciprofloxacin - [**2129-1-9**] 10:45 AM
   Levofloxacin - [**2129-1-9**] 09:03 PM
   Metronidazole - [**2129-1-10**] 12:04 AM
   Infusions:
   Other ICU medications:
   Diltiazem - [**2129-1-9**] 06:43 AM
   Pantoprazole (Protonix) - [**2129-1-9**] 08:15 PM
   Furosemide (Lasix) - [**2129-1-9**] 10:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2129-1-10**] 06:12 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (101
   Tcurrent: 37.7
C (99.9
   HR: 84 (84 - 127) bpm
   BP: 102/60(69) {81/40(49) - 117/92(106)} mmHg
   RR: 19 (15 - 27) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
    CVP: 3 (3 - 7)mmHg
   Total In:
                                                                  4,098 mL
                                                                    757 mL
   PO:
                                                                    240 mL
                                                                    300 mL
   TF:
   IVF:
                                                                  3,858 mL
                                                                    457 mL
   Blood products:
   Total out:
                                                                  1,670 mL
                                                                    785 mL
   Urine:
                                                                  1,670 mL
                                                                    785 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,428 mL
                                                                    -28 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 93%
   ABG: 7.43/40/72/25/1
   Physical Examination
   General Appearance: Well nourished, No acute distress, No(t) Anxious
   Eyes / Conjunctiva: PERRL, MMM and OP clear
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic,
   No(t) Diastolic), tachy and irregular
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Clear : , Crackles : bibasilar coarse crackles)
   Skin:  no rash
   Neurologic: Responds to: Not assessed, Movement: spontaneous,
   purposeful, Tone: Not assessed. Oriented to [**Hospital1 12**], [**1-7**]^th [**2128**].
   Labs / Radiology
   162 K/uL
   9.4 g/dL
   101 mg/dL
   0.6 mg/dL
   25 mEq/L
   3.4 mEq/L
   4 mg/dL
   103 mEq/L
   135 mEq/L
   28.2 %
   8.5 K/uL
                             [**2129-1-7**]  07:35 AM
                             [**2129-1-7**]  01:57 PM
                             [**2129-1-7**]  05:12 PM
                             [**2129-1-7**]  10:13 PM
                             [**2129-1-8**]  04:05 AM
                             [**2129-1-8**]  02:17 PM
                             [**2129-1-9**]  07:52 AM
                             [**2129-1-9**]  02:33 PM
                             [**2129-1-9**]  09:53 PM
                             [**2129-1-10**]  03:53 AM
   WBC
   13.2
   11.4
   8.5
   Hct
   33.5
   33.0
   30.6
   30.7
   31.2
   29.8
   29.1
   29.3
   28.2
   Plt
   191
   170
   162
   Cr
   0.7
   0.7
   0.6
   0.6
   TropT
   0.01
   <0.01
   TCO2
   27
   Glucose
   114
   96
   116
   101
   Other labs: PT / PTT / INR:19.7/38.3/1.8, CK / CKMB /
   Troponin-T:236/3/<0.01, ALT / AST:15/33, Alk Phos / T Bili:93/0.7,
   Lactic Acid:1.2 mmol/L, Albumin:2.9 g/dL, LDH:127 IU/L, Ca++:7.1 mg/dL,
   Mg++:1.3 mg/dL, PO4:1.8 mg/dL
   Assessment and Plan
   72 y/o gentleman with h/o gastric ulcer bleed s/p surgery, CAD, HTN, ?
   Hep C infection admitted with BRBPR, now transfer back to MICU with
   Afib with RVR.
   .
   # Afib with RVR. Was in sinus tach earlier in day (to 110-120) with new
   Afib prompting MICU transfer.  Trigger for Afib includes hypovolemia
   from GIB, sepsis/infection, pulmonary embolus or other pulm process.
   Was also on BB at baseline that has been held.  Unclear etiology now.
   - Volume resuscitated and now in pulmonary edema; unclear if pulmonary
   edema preceded afib and was the cause
   - afib converted to NSR after dilt gtt, now on dilt PO
   - TSH and echo for workup
   - consider anticoagulation in the long run
   .
   # Pulm edema
 likely from fluid rescussitation in setting of GI bleed
   and tachycardia
   - diurese as tolerated by BP
   - f/u CXR tomorrow
   - f/u echo for heart function
   .
   # Relative hypotension.  To SBP 90s after receiving 1 IV dilaudid and
   IV/PO metoprolol with Afib/RVR in addition.
   - likely in setting of nodal blockade for afib
   - no change in mentation, change in UO, perfusing appropriately
   - titrate dilt to SBP of approximately 100
   .
   # GIB: CT showed colitis at the hepatic flexure to rectosigmoid
   junction. DDx includes ischemic, however large vessels were patent in
   prelim read of CT. Infectious suggestive on CT scan and inflammatory
   also on the differential. GI following.  No transfusions required with
   continued stable hematocrit, although trending downward steadily.
   - continue to trend Hct, tx for hct <25
   - IV PPI [**Hospital1 **]
   - active type and cross
   - monitor hemodynamically and maintain access.
   .
   #Colitis: see above. Possible ischemic vs infectious, although in
   setting afib more likely ischemic.
   - colonoscopy as inpatient to evaluate
   - cont cipro and flagyl  per ID recs
   - f/u c diff and stool cultures
   - f/[**Initials (NamePattern4) **] [**Last Name (NamePattern4) 91**] recs
   - tolerating clears
   .
    # Hypoxia
 likely from combination of underlying fibrosis and pulm
   edema, does not appear to have infection in lung
   - briefly on levoflox for possible pna, stopping today and continuing
   above abx for colitis
   - O2 NC as needed
   - diuresis as outlined above
   #Bacteremia: Pt with GPC growing in blood. He was started on
   vancomycin. Possible contamination ([**11-23**]) vs true infection. Pt has been
   febrile, but other sources of infection.  Grew coag negative staph
   - likely contaminant, stopping vanco
   .
   .
   # Hep C infection: Pt states he has a history of hep c.
   - HCV AB and VL pending.
   - likely cause of elevated INR, consider reversing in setting of GI
   bleed with Vit K
   .
   # h/o CAD: CP c/w chronic angina symptoms. EKG without any acute
   changes.
   - restart ASA.
   - serial ECG.
   .
   # FEN: clears, follow up with GI
   .
   # PPx: SQ heparin, protonix
   .
   # Access:  RIJ removed, PICC placed
   .
   # Code: full
   .
   # Dispo: ICU for now pending improvement of resp status
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2129-1-9**] 12:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2129-01-12 06:41:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   [**1-11**] Events:
   spoke to GI, will scope at later date on floor or as outpatient, d/c'ed
   cipro
   sputum cx - GRAM POSITIVE COCCI. IN PAIRS AND CLUSTERS
   started vanc/ceftriaxone
   given lasix 20 x2, 40 x1
   desated to 88 overnight on 6L placed on face tent with improvement to
   mid 90s
   spiked overnight, pan cultured
 SPUTUM CULTURE - At [**2129-1-11**] 09:10 AM
 BLOOD CULTURED - At [**2129-1-11**] 10:30 PM
 URINE CULTURE - At [**2129-1-11**] 10:30 PM
 FEVER - 102.0
F - [**2129-1-11**] 10:00 PM
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Unknown;
   Last dose of Antibiotics:
   Levofloxacin - [**2129-1-10**] 08:10 PM
   Metronidazole - [**2129-1-11**] 12:04 AM
   Ciprofloxacin - [**2129-1-11**] 01:00 PM
   Ceftriaxone - [**2129-1-11**] 02:10 PM
   Vancomycin - [**2129-1-11**] 08:15 PM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2129-1-11**] 09:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2129-1-12**] 06:41 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.9
C (102
   Tcurrent: 35.7
C (96.3
   HR: 76 (70 - 108) bpm
   BP: 96/55(66) {80/36(46) - 109/70(100)} mmHg
   RR: 17 (14 - 30) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  2,108 mL
                                                                    271 mL
   PO:
                                                                    200 mL
                                                                    100 mL
   TF:
   IVF:
                                                                  1,908 mL
                                                                    171 mL
   Blood products:
   Total out:
                                                                  3,660 mL
                                                                    850 mL
   Urine:
                                                                  3,660 mL
                                                                    850 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,552 mL
                                                                   -579 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ///31/
   Physical Examination
   General Appearance: Well nourished, No acute distress, No(t) Anxious
   Eyes / Conjunctiva: PERRL, MMM and OP clear
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic,
   No(t) Diastolic), tachy and irregular
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Clear : , Crackles : bibasilar coarse crackles,
   decreased amount of wheezes)
   Skin:  no rash
   Neurologic: Responds to: Not assessed, Movement: spontaneous,
   purposeful, Tone: Not assessed.
   Labs / Radiology
   194 K/uL
   10.0 g/dL
   124 mg/dL
   0.7 mg/dL
   31 mEq/L
   3.2 mEq/L
   6 mg/dL
   93 mEq/L
   131 mEq/L
   29.5 %
   6.5 K/uL
        [image002.jpg]
                             [**2129-1-9**]  07:52 AM
                             [**2129-1-9**]  02:33 PM
                             [**2129-1-9**]  09:53 PM
                             [**2129-1-10**]  03:53 AM
                             [**2129-1-10**]  12:47 PM
                             [**2129-1-10**]  08:55 PM
                             [**2129-1-10**]  11:27 PM
                             [**2129-1-11**]  03:46 AM
                             [**2129-1-11**]  11:13 AM
                             [**2129-1-12**]  03:05 AM
   WBC
   8.5
   8.8
   7.5
   7.7
   6.5
   Hct
   29.1
   29.3
   28.2
   30.8
   27.1
   28.8
   29.5
   Plt
   162
   191
   190
   201
   194
   Cr
   0.6
   0.6
   0.6
   0.6
   0.6
   0.6
   0.7
   0.7
   TropT
   <0.01
   <0.01
   <0.01
   TCO2
   27
   Glucose
   116
   101
   153
   258
   194
   197
   121
   124
   Other labs: PT / PTT / INR:20.5/38.7/1.9, CK / CKMB /
   Troponin-T:265/5/<0.01, ALT / AST:15/33, Alk Phos / T Bili:93/0.7,
   Lactic Acid:1.2 mmol/L, Albumin:2.9 g/dL, LDH:127 IU/L, Ca++:7.6 mg/dL,
   Mg++:1.4 mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
   72 y/o gentleman with h/o gastric ulcer bleed s/p surgery, CAD, HTN, ?
   Hep C infection admitted with BRBPR, now transfer back to MICU with
   Afib with RVR.
   .
   # Afib with RVR. Was in sinus tach earlier in day (to 110-120) with new
   Afib prompting MICU transfer.  Trigger for Afib includes hypovolemia
   from GIB, sepsis/infection, pulmonary embolus or other pulm process.
   Was also on BB at baseline that has been held.  Unclear etiology now,
   although likely in setting of stress.
   - back in afib overnight, dilt gtt maxed at 5 because limited by BP;
   transitioned to oral 90 mg qid dilt
   - rate controlled well, BPs in 90s-100s and being tolerated
   - TSH slightly elevated, do not feel is cause or need a treatment in
   acute setting
   - echo showing no structural abnormalities accounting for afib
   - consider anticoagulation in the long run
   .
   # Hypoxia
 has worsening respiratory status; O2 requirement from 3 L
   up to 6L overnight even after successful diuresis with lasix
   yesterday.  Unclear etiology.  Definitely has underlying lung disease
   based on limited CT scan, no known hx of lung disease, though.  Could
   be fluid overload v. infection v. possible PE
   - CXR shows less pulm edema, still some fluid overload
   - diurese as tolerated by BP, consider lasix gtt
   - spike fever again, continue vanco and ceftriaxone, has GPCs in pair
   and clusters on sputum
   - rule out TB, check fungal cultures
   - CT scan of chest today
   - rule out for flu
   .
   # Relative hypotension.  To SBP 90s after receiving 1 IV dilaudid and
   IV/PO metoprolol with Afib/RVR in addition.  Now remaining in the 90s,
   but tolerating well, likely from diltiazem treatment, continues to be
   in 90s-100s
   - likely in setting of nodal blockade for afib
   - no change in mentation, change in UO, perfusing appropriately
   - titrate dilt to SBP of approximately 100
   .
   # GIB: CT showed colitis at the hepatic flexure to rectosigmoid
   junction. DDx includes ischemic, however large vessels were patent in
   prelim read of CT. Infectious suggestive on CT scan and inflammatory
   also on the differential. GI following.  No transfusions required with
   continued stable hematocrit, although trending downward steadily.
   - stable, now checking only daily hcts
   - continue to trend Hct, tx for hct <25
   - IV PPI [**Hospital1 **]
   - active type and cross
   - monitor hemodynamically and maintain access.
   .
   #Colitis: see above. Possible ischemic vs infectious, although in
   setting afib more likely ischemic.
   - colonoscopy as inpatient v. outpatient to evaluate per GI
   - stopping antibiotics
   - c.diff and other stool cultures neg
   - ADAT, NPO if respiratory status worsens
   #? Bacteremia: Pt with GPC growing in blood. He was started on
   vancomycin. Possible contamination ([**11-23**]) vs true infection. Pt has been
   febrile, but other sources of infection.  Grew coag negative staph
   - likely contaminant, stopping vanco, but now back on it for PNA
   .
   # Hep C infection: Pt states he has a history of hep c.
   - HCV VL 3 million
   - likely cause of elevated INR, not actively bleeding, does not need to
   be reversed
   .
   # h/o CAD: CP c/w chronic angina symptoms. EKG without any acute
   changes except had demand ischemia when in afib with high rates, repeat
   EKGs were normal.
   - restart ASA.
   - ruled out by enzymes
   .
   # FEN: ADAT for now,
   .
   # PPx: pneumoboots, protonix
   .
   # Access:  RIJ removed, PICC placed
   .
   # Code: full
   .
   # Dispo: ICU for now pending improvement of resp status
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2129-1-9**] 12:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2129-01-13 06:41:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   [**1-12**] Events:
   - continued vanc/ceftriaxone
   - CT scan showed:
   1. No focal consolidation is visualized to suggest pneumonia.
   2. Emphysema with superimposed pulmonary edema.
   3. Small bilateral pleural effusions.
   4. Moderate amount of ascites.
   5. Chronic T11 wedge compression fracture.
   - diuresed overnight with lasix 40 mg x2
   - ruling out for TB
   - spiked fever overnight around 2 am, recultured
 BLOOD CULTURED - At [**2129-1-13**] 03:30 AM
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Unknown;
   Last dose of Antibiotics:
   Levofloxacin - [**2129-1-10**] 08:10 PM
   Metronidazole - [**2129-1-11**] 12:04 AM
   Ciprofloxacin - [**2129-1-11**] 01:00 PM
   Vancomycin - [**2129-1-12**] 08:00 PM
   Ceftriaxone - [**2129-1-13**] 01:00 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2129-1-12**] 08:32 PM
   Hydromorphone (Dilaudid) - [**2129-1-13**] 03:00 AM
   Furosemide (Lasix) - [**2129-1-13**] 03:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2129-1-13**] 06:41 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38
C (100.4
   Tcurrent: 38
C (100.4
   HR: 88 (77 - 104) bpm
   BP: 104/57(69) {86/36(49) - 128/83(86)} mmHg
   RR: 20 (18 - 28) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  1,220 mL
                                                                    392 mL
   PO:
                                                                    400 mL
                                                                    175 mL
   TF:
   IVF:
                                                                    820 mL
                                                                    217 mL
   Blood products:
   Total out:
                                                                  2,810 mL
                                                                  1,135 mL
   Urine:
                                                                  2,810 mL
                                                                  1,135 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,590 mL
                                                                   -743 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 94%
   ABG: ///31/
   Physical Examination
   General Appearance: Well nourished, No acute distress, No(t) Anxious
   Eyes / Conjunctiva: PERRL, MMM and OP clear
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic,
   No(t) Diastolic), tachy and irregular
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Clear : , Crackles : bibasilar coarse crackles,
   decreased amount of wheezes)
   Skin:  no rash
   Neurologic: Responds to: Not assessed, Movement: spontaneous,
   purposeful, Tone: Not assessed.
   Labs / Radiology
   206 K/uL
   9.7 g/dL
   142 mg/dL
   0.7 mg/dL
   31 mEq/L
   3.3 mEq/L
   8 mg/dL
   91 mEq/L
   131 mEq/L
   29.2 %
   7.9 K/uL
        [image002.jpg]
                             [**2129-1-9**]  02:33 PM
                             [**2129-1-9**]  09:53 PM
                             [**2129-1-10**]  03:53 AM
                             [**2129-1-10**]  12:47 PM
                             [**2129-1-10**]  08:55 PM
                             [**2129-1-10**]  11:27 PM
                             [**2129-1-11**]  03:46 AM
                             [**2129-1-11**]  11:13 AM
                             [**2129-1-12**]  03:05 AM
                             [**2129-1-13**]  02:53 AM
   WBC
   8.5
   8.8
   7.5
   7.7
   6.5
   7.9
   Hct
   29.1
   29.3
   28.2
   30.8
   27.1
   28.8
   29.5
   29.2
   Plt
   162
   191
   190
   [**Telephone/Fax (3) 4852**]
   Cr
   0.6
   0.6
   0.6
   0.6
   0.6
   0.6
   0.7
   0.7
   0.7
   TropT
   <0.01
   <0.01
   <0.01
   Glucose
   116
   101
   153
   258
   194
   197
   121
   124
   142
   Other labs: PT / PTT / INR:18.0/34.7/1.6, CK / CKMB /
   Troponin-T:265/5/<0.01, ALT / AST:15/46, Alk Phos / T Bili:90/0.7,
   Amylase / Lipase:20/11, Differential-Neuts:72.0 %, Band:0.0 %,
   Lymph:15.5 %, Mono:10.4 %, Eos:1.9 %, Lactic Acid:1.2 mmol/L,
   Albumin:2.9 g/dL, LDH:186 IU/L, Ca++:7.6 mg/dL, Mg++:1.4 mg/dL, PO4:2.8
   mg/dL
   Assessment and Plan
   72 y/o gentleman with h/o gastric ulcer bleed s/p surgery, CAD, HTN, ?
   Hep C infection admitted with BRBPR, now transfer back to MICU with
   Afib with RVR.
   .
   # Hypoxia
 has worsening respiratory status; continues to require face
   mask and NC O2.  Unclear etiology.  CT scan showed pulm edema on top of
   IPF and emphysema.  Working diagnosis includes fluid overload on top of
   underlying lung disease in setting of afib with RVR and loss of atrial
   10% forward flow.
   - diuresed yesterday and feels subjectively better
   - continue diuresis today with 40 mg IV lasix PRN
   - continue vanco and ceftriaxone, has GPCs in pair and clusters on
   sputum, unclear if this is source of fever because he continues to
   spike despite coverage
   - rule out TB, check fungal cultures
   - rule out for flu
   .
   # Fevers
 unclear etiology, PNA v. bronchitis v. SBP v. other sources
   - pan cultured again
   - f/u blood, sputum, stool, urine
   - consider paracentesis to rule out SBP in setting of ascites and
   recent colitis
   .
   # Afib with RVR. Continues to be in afib but well rate controlled on
   dilt, could be cause of poor heart function causing pulmonary edema.
   - cont dilt 90 mg qid
   - rate controlled well, BPs in 90s-100s and being tolerated
   - TSH slightly elevated, do not feel is cause or need a treatment in
   acute setting
   - echo showing no structural abnormalities accounting for afib
   - consider anticoagulation in the long run
   .
   # Relative hypotension.  To SBP 90s after receiving 1 IV dilaudid and
   IV/PO metoprolol with Afib/RVR in addition.  Now remaining in the 90s
   up to 100s now, but tolerating well, likely from diltiazem treatment,
   continues to be in 90s-100s
   - likely in setting of nodal blockade for afib
   - no change in mentation, or change in UO, perfusing appropriately
   - titrate dilt to SBP of approximately 100
   .
   # GIB: CT showed colitis at the hepatic flexure to rectosigmoid
   junction. DDx includes ischemic, however large vessels were patent in
   prelim read of CT. Infectious suggestive on CT scan and inflammatory
   also on the differential. GI following.  No transfusions required with
   continued stable hematocrit, although trending downward steadily.
   - stable, now checking only daily hcts
   - continue to trend Hct, tx for hct <25
   - IV PPI [**Hospital1 **]
   - active type and cross
   - monitor hemodynamically and maintain access.
   - if consider it to be ischemic colitis in setting of cardiac event
   could explain the connection between respiratory distress due to fluid
   overload from new stress on heart.
   .
   #Colitis: see above. Possible ischemic vs infectious, although in
   setting afib more likely ischemic.
   - colonoscopy as inpatient v. outpatient to evaluate per GI
   - stopping antibiotics
   - c.diff and other stool cultures neg
   - ADAT, NPO if respiratory status worsens
   #? Bacteremia: Pt with GPC growing in blood. He was started on
   vancomycin. Possible contamination ([**11-23**]) vs true infection. Pt has been
   febrile, but other sources of infection.  Grew coag negative staph
   - likely contaminant, stopping vanco, but now back on it for PNA
   .
   # Hep C infection: Pt states he has a history of hep c.
   - HCV VL 3 million
   - liver on CT scan is unremarkable
   - likely cause of elevated INR, not actively bleeding, does not need to
   be reversed
   .
   # h/o CAD: CP c/w chronic angina symptoms. EKG without any acute
   changes except had demand ischemia when in afib with high rates, repeat
   EKGs were normal.
   - restart ASA.
   - ruled out by enzymes
   - could have hx of unknown cardiac event causing above symptoms
   .
   # FEN: reg diet
   .
   # PPx: pneumoboots, protonix
   .
   # Access:  RIJ removed, PICC placed
   .
   # Code: full
   .
   # Dispo: ICU for now pending improvement of resp status
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2129-1-9**] 12:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2129-01-14 07:13:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 SPUTUM CULTURE - At [**2129-1-13**] 12:17 PM
 URINE CULTURE - At [**2129-1-13**] 12:17 PM
 EKG - At [**2129-1-13**] 01:17 PM
   ? Afib- bust SVT
 ULTRASOUND - At [**2129-1-13**] 03:30 PM
   ABD u/s
   [**1-13**] Events:
   - pos RSV, neg AFB x2
   - RUQ U/S showed cirrhosis, small ascites, mild splenomegaly, 1cm
   echogenic lesion in R hepatic dome most likely hemangioma
   - IR tap -> SAAG > 1.1 with no evidence of SBP
   - episode of AF with RVR after straining on toilet, responded to IV
   metoprolol
   - abdominal pain post-straining -> no evidence of obstruction on AXR
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2129-1-13**] 08:19 PM
   Ceftriaxone - [**2129-1-14**] 12:00 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2129-1-13**] 08:00 PM
   Furosemide (Lasix) - [**2129-1-13**] 08:00 PM
   Diltiazem - [**2129-1-13**] 08:42 PM
   Hydromorphone (Dilaudid) - [**2129-1-13**] 09:09 PM
   Metoprolol - [**2129-1-13**] 09:24 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2129-1-14**] 07:12 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38
C (100.4
   Tcurrent: 37.4
C (99.3
   HR: 102 (81 - 144) bpm
   BP: 103/53(66) {84/35(50) - 124/79(144)} mmHg
   RR: 22 (11 - 29) insp/min
   SpO2: 88%
   Heart rhythm: AF (Atrial Fibrillation)
             Total In:
                                                                  1,565 mL
                                                                    222 mL
   PO:
                                                                    615 mL
             TF:
   IVF:
                                                                    950 mL
                                                                    222 mL
   Blood products:
   Total out:
                                                                  2,795 mL
                                                                    345 mL
   Urine:
                                                                  2,795 mL
                                                                    345 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,230 mL
                                                                   -123 mL
   Respiratory support
   O2 Delivery Device: High flow neb, Face tent
   SpO2: 88%
   ABG: ///32/
   Physical Examination
   General Appearance: Well nourished, No acute distress, No(t) Anxious
   Eyes / Conjunctiva: PERRL, MMM and OP clear
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic,
   No(t) Diastolic), tachy and irregular
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Clear : , Crackles : bibasilar coarse crackles,
   decreased amount of wheezes)
   Skin:  no rash
   Neurologic: Responds to: Not assessed, Movement: spontaneous,
   purposeful, Tone: Not assessed.
   Labs / Radiology
   206 K/uL
   9.6 g/dL
   119 mg/dL
   0.7 mg/dL
   32 mEq/L
   3.7 mEq/L
   10 mg/dL
   89 mEq/L
   127 mEq/L
   28.5 %
   8.4 K/uL
        [image002.jpg]
                             [**2129-1-10**]  12:47 PM
                             [**2129-1-10**]  08:55 PM
                             [**2129-1-10**]  11:27 PM
                             [**2129-1-11**]  03:46 AM
                             [**2129-1-11**]  11:13 AM
                             [**2129-1-12**]  03:05 AM
                             [**2129-1-13**]  02:53 AM
                             [**2129-1-13**]  02:19 PM
                             [**2129-1-13**]  09:00 PM
                             [**2129-1-14**]  03:30 AM
   WBC
   8.8
   7.5
   7.7
   6.5
   7.9
   8.4
   Hct
   30.8
   27.1
   28.8
   29.5
   29.2
   28.5
   Plt
   191
   190
   201
   194
   206
   Cr
   0.6
   0.6
   0.6
   0.6
   0.7
   0.7
   0.7
   0.6
   0.6
   0.7
   TropT
   <0.01
   <0.01
   <0.01
   Glucose
   153
   258
   194
   197
   121
   124
   142
   133
   133
   119
   Other labs: PT / PTT / INR:17.0/31.8/1.5, CK / CKMB /
   Troponin-T:265/5/<0.01, ALT / AST:15/46, Alk Phos / T Bili:90/0.7,
   Amylase / Lipase:20/11, Differential-Neuts:72.0 %, Band:0.0 %,
   Lymph:15.5 %, Mono:10.4 %, Eos:1.9 %, Lactic Acid:1.2 mmol/L,
   Albumin:2.9 g/dL, LDH:186 IU/L, Ca++:7.9 mg/dL, Mg++:9.6 mg/dL, PO4:2.6
   mg/dL
   Assessment and Plan
   72 y/o gentleman with CHF Afib with RVR with hypoxia from RSV PNA,
   idiopathic pulmonary fibrosis, and pulmonary edema off Abx on Lasix.
   Patient has  h/o gastric ulcer bleed s/p surgery, CAD, HTN, ? Hep C
   infection admitted with BRBPR, now transfer back to MICU with Afib with
   RVR.
   .
   # Hypoxia
 Patient has worsening respiratory status; continues to
   require face mask and NC O2.  Patient has RSV PNA, idiopathic pulmonary
   fibrosis, and pulmonary edema.  Despite Echo, patient has CHF and this
   can be contributing to the pulmonary edema. Working diagnosis includes
   fluid overload on top of underlying lung disease in setting of afib
   with RVR and loss of atrial 10% forward flow. Patient has been
   diuresied with Lasix 40mg IV BID. Patient was on continue vanco and
   ceftriaxone, has GPCs in pair and clusters on sputum, unclear if this
   is source of fever because he continues to spike despite coverage, but
   stopped Abx [**1-14**] since RSV positive. Patient placed on droplet
   precautions. AFB negative x3, no concern for TB.
   - diurese with Lasix 40mg IV BID
   .
   # Fevers
 unclear etiology, PNA v. bronchitis v. SBP. IR did
   diagnostic paracentesis and no evidence of SBP.
   - pan cultured again
   - f/u blood, sputum, stool, urine
   .
   # Afib with RVR. Continues to be in afib but well rate controlled on
   dilt, could be cause of poor heart function causing pulmonary edema.
   Patient is on max dose Dilt 90mg PO QID and continues to have episodes
   of RVR, started metoprolol 12.5mg PO BID.
   - cont dilt 90 mg qid
   - TSH slightly elevated, do not feel is cause or need a treatment in
   acute setting
   - echo showing no structural abnormalities accounting for afib
   - consider anticoagulation in the long run
   .
   # Relative hypotension.  To SBP 90s after receiving 1 IV dilaudid and
   IV/PO metoprolol with Afib/RVR in addition.  Now remaining in the 90s
   up to 100s now, but tolerating well, likely from diltiazem treatment,
   continues to be in 90s-100s
   - likely in setting of nodal blockade for afib
   - no change in mentation, or change in UO, perfusing appropriately
   - titrate dilt to SBP of approximately 100
   .
   # GIB: CT showed colitis at the hepatic flexure to rectosigmoid
   junction. DDx includes ischemic, however large vessels were patent in
   prelim read of CT. Infectious suggestive on CT scan and inflammatory
   also on the differential. GI following.  No transfusions required with
   continued stable hematocrit, although trending downward steadily.
   - stable, now checking only daily hcts
   - continue to trend Hct, tx for hct <25
   - IV PPI [**Hospital1 **]
   - active type and cross
   - monitor hemodynamically and maintain access.
   - if consider it to be ischemic colitis in setting of cardiac event
   could explain the connection between respiratory distress due to fluid
   overload from new stress on heart.
   .
   #Colitis: see above. Possible ischemic vs infectious, although in
   setting afib more likely ischemic.
   - colonoscopy as inpatient v. outpatient to evaluate per GI
   - stopping antibiotics
   - c.diff and other stool cultures neg
   - ADAT, NPO if respiratory status worsens
   #? Bacteremia: Pt with GPC growing in blood. He was started on
   vancomycin. Possible contamination ([**11-23**]) vs true infection. Pt has been
   febrile, but other sources of infection.  Grew coag negative staph
   - likely contaminant, stopping vanco, but now back on it for PNA
   .
   # Hep C infection: Pt states he has a history of hep c.
   - HCV VL 3 million
   - liver on CT scan is unremarkable
   - likely cause of elevated INR, not actively bleeding, does not need to
   be reversed
   .
   # h/o CAD: CP c/w chronic angina symptoms. EKG without any acute
   changes except had demand ischemia when in afib with high rates, repeat
   EKGs were normal.
   - restart ASA.
   - ruled out by enzymes
   - could have hx of unknown cardiac event causing above symptoms
   .
   # FEN: reg diet
   .
   # PPx: pneumoboots, protonix
   .
   # Access:  RIJ removed, PICC placed
   .
   # Code: full
   .
   # Dispo: ICU for now pending improvement of resp status
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2129-1-9**] 12:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2129-01-15 06:43:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   [**1-14**] Events:
   off airbrone precautions, AFBx3 negative
   stopped antibiotics since RSV pna
   continuing Lasix 40mg IV BID
   started metoprolol 12.5 mg PO BID for afib with RVR in addition to dilt
   90mg PO QID
   giving tramadol with dilaudid
   at 8pm, spiked to 101 and was pan-cultured
 BLOOD CULTURED - At [**2129-1-14**] 09:32 PM
 URINE CULTURE - At [**2129-1-14**] 09:32 PM
 BLOOD CULTURED - At [**2129-1-15**] 04:58 AM
 FEVER - 101.4
F - [**2129-1-14**] 08:00 PM
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Unknown;
   Last dose of Antibiotics:
   Ceftriaxone - [**2129-1-14**] 12:00 AM
   Vancomycin - [**2129-1-14**] 08:30 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2129-1-14**] 08:33 PM
   Furosemide (Lasix) - [**2129-1-14**] 08:33 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2129-1-15**] 06:42 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.6
C (101.4
   Tcurrent: 37.1
C (98.8
   HR: 69 (69 - 140) bpm
   BP: 93/56(65) {84/38(49) - 115/71(79)} mmHg
   RR: 17 (15 - 33) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                    840 mL
                                                                     87 mL
   PO:
                                                                    240 mL
             TF:
   IVF:
                                                                    600 mL
                                                                     87 mL
   Blood products:
   Total out:
                                                                  2,470 mL
                                                                    400 mL
   Urine:
                                                                  2,470 mL
                                                                    400 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,630 mL
                                                                   -313 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 96%
   ABG: ///32/
   Physical Examination
   General Appearance: Well nourished, No acute distress, No(t) Anxious
   Eyes / Conjunctiva: PERRL, MMM and OP clear
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic,
   No(t) Diastolic), tachy and irregular
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Clear : , Crackles : bibasilar coarse crackles, no
   wheezes
   Skin:  no rash
   Neurologic: Responds to: Not assessed, Movement: spontaneous,
   purposeful, Tone: Not assessed, decreased sensation in L leg but full
   ROM, dopplerable pulses, strength 5/5
   Labs / Radiology
   189 K/uL
   9.4 g/dL
   110 mg/dL
   0.6 mg/dL
   32 mEq/L
   3.5 mEq/L
   12 mg/dL
   91 mEq/L
   130 mEq/L
   27.9 %
   9.4 K/uL
        [image002.jpg]
                             [**2129-1-10**]  11:27 PM
                             [**2129-1-11**]  03:46 AM
                             [**2129-1-11**]  11:13 AM
                             [**2129-1-12**]  03:05 AM
                             [**2129-1-13**]  02:53 AM
                             [**2129-1-13**]  02:19 PM
                             [**2129-1-13**]  09:00 PM
                             [**2129-1-14**]  03:30 AM
                             [**2129-1-14**]  06:40 AM
                             [**2129-1-15**]  04:22 AM
   WBC
   7.5
   7.7
   6.5
   7.9
   8.4
   9.4
   Hct
   27.1
   28.8
   29.5
   29.2
   28.5
   27.9
   Plt
   190
   201
   194
   [**Telephone/Fax (3) 4907**]
   Cr
   0.6
   0.6
   0.7
   0.7
   0.7
   0.6
   0.6
   0.7
   0.6
   TropT
   <0.01
   <0.01
   Glucose
   194
   197
   121
   124
   142
   133
   133
   119
   110
   Other labs: PT / PTT / INR:17.0/31.8/1.5, CK / CKMB /
   Troponin-T:265/5/<0.01, ALT / AST:15/46, Alk Phos / T Bili:90/0.7,
   Amylase / Lipase:20/11, Differential-Neuts:80.1 %, Band:0.0 %,
   Lymph:11.6 %, Mono:6.9 %, Eos:1.1 %, Lactic Acid:2.1 mmol/L,
   Albumin:2.9 g/dL, LDH:186 IU/L, Ca++:7.7 mg/dL, Mg++:1.7 mg/dL, PO4:2.7
   mg/dL
   Assessment and Plan
   72 y/o gentleman with CHF Afib with RVR with hypoxia from RSV PNA,
   idiopathic pulmonary fibrosis, and pulmonary edema off Abx on Lasix.
   Patient has  h/o gastric ulcer bleed s/p surgery, CAD, HTN, ? Hep C
   infection admitted with BRBPR, now transfer back to MICU with Afib with
   RVR.
   .
   # Hypoxia
 Patient has worsening respiratory status; continues to
   require face mask and NC O2.  Patient has RSV PNA, idiopathic pulmonary
   fibrosis, and pulmonary edema.  Despite Echo, patient has CHF and this
   can be contributing to the pulmonary edema. Working diagnosis includes
   fluid overload on top of underlying lung disease in setting of afib
   with RVR and loss of atrial 10% forward flow. Patient has been
   diuresied with Lasix 40mg IV BID. Patient was on continue vanco and
   ceftriaxone, has GPCs in pair and clusters on sputum, unclear if this
   is source of fever because he continues to spike despite coverage, but
   stopped Abx [**1-14**] since RSV positive. Patient placed on droplet
   precautions. AFB negative x3, no concern for TB.
   - probably is RSV pneumonia on top of very poor lungs,  having hard
   time recovering
   - diuresis not improving patient much, appearing dry, with increased HR
   and afib yesterday, decreasing lasix from 40 mg [**Hospital1 **] to 40 mg daily for
   now, will follow clinically
   .
   # Fevers
 spiked again last night, unclear etiology, PNA v. bronchitis
   v. SBP. IR did diagnostic paracentesis and no evidence of SBP.
   - pan cultured again
   - f/u blood, sputum, stool, urine
   - likely viral
   .
   # Afib with RVR. Continues to be in afib but well rate controlled on
   dilt, could be cause of poor heart function causing pulmonary edema.
   Patient is on max dose Dilt 90mg PO QID and continues to have episodes
   of RVR, started metoprolol 12.5mg PO BID on [**1-14**]. TSH elevated,
   considered to be sick euthyroid. Echo showed normal ejection fraction
   and no evidence of structural heart disease.
   - cont dilt 90 mg qid
   - cont metoprolol 12. 5 mg [**Hospital1 **]
   - BPs stable
   - consider anticoagulation in the long run
   .
   # Relative hypotension.  To SBP 90s after receiving 1 IV dilaudid and
   IV/PO metoprolol with Afib/RVR in addition.  Now remaining in the 90s
   up to 100s now, but tolerating well, likely from diltiazem/ metoprolol
   treatment, continues to be in 90s-100s
   - likely in setting of nodal blockade for afib
   - no change in mentation, or change in UO, perfusing appropriately
   .
   # chronic pain disorder
 started tramadol on [**1-14**]. Patient has been on
   IV dilaudid chronically.
   - control with tramadol and diluadid PRN
   - back pain likely contributing to sciatica down L leg
   .
   # GIB: stable, CT showed colitis at the hepatic flexure to rectosigmoid
   junction. DDx includes ischemic, however large vessels were patent in
   prelim read of CT. Infectious suggestive on CT scan and inflammatory
   also on the differential. GI following.  No transfusions required with
   continued stable hematocrit, although trending downward steadily.
   - stable, now checking only daily hcts
   - continue to trend Hct, tx for hct <25
   - IV PPI [**Hospital1 **]
   - active type and cross
   - monitor hemodynamically and maintain access.
   .
   #Colitis: see above. Possible ischemic vs infectious, although in
   setting afib more likely ischemic. Further workup did not support this
   and the abdominal pain appears to be from chronic pain disorder.
   - colonoscopy as inpatient v. outpatient to evaluate per GI
   - stopping antibiotics
   - c.diff and other stool cultures neg
   - on reg diet
   .
   # Hyponatremia
 likely from SIADH
   - fluid restriction for now, Na improved today from 127 to 130
   - continue to monitor
     .
   # Hep C infection: Pt states he has a history of hep c.
   - HCV VL 3 million
   - liver on CT scan is unremarkable
   - likely cause of elevated INR, not actively bleeding, does not need to
   be reversed
   .
   # h/o CAD: CP c/w chronic angina symptoms. EKG without any acute
   changes except had demand ischemia when in afib with high rates, repeat
   EKGs were normal.  Patient completed ROMI.
   - on ASA.
   .
   # FEN: fluid restricted and reg diet
   .
   # PPx: pneumoboots, protonix IV BID
   .
   # Access PICC [**1-12**]
   .
   # Code: full
   .
   # Dispo: ICU for now pending improvement of resp status
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2129-1-9**] 12:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2129-01-15 11:23:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   62 yo admitted with BRBPR, developed respiratory distress, and found to
   have RSV PNA and interstitial lung disease.   Has been diuresed and
   slowly doing better.  Still requiring 50% cool neb oxygen, but
   improved.  Still spiking fevers.  Episodic AF with RVR, reponding to IV
   lopressor.
   24 Hour Events:
 BLOOD CULTURED - At [**2129-1-14**] 09:32 PM
 URINE CULTURE - At [**2129-1-14**] 09:32 PM
 BLOOD CULTURED - At [**2129-1-15**] 04:58 AM
 FEVER - 101.4
F - [**2129-1-14**] 08:00 PM
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Unknown;
   Last dose of Antibiotics:
   Ceftriaxone - [**2129-1-14**] 12:00 AM
   Vancomycin - [**2129-1-14**] 08:30 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2129-1-14**] 08:33 PM
   Furosemide (Lasix) - [**2129-1-14**] 08:33 PM
   Other medications:
   lidocaine
   albuterol/atrovent
   dilt
   tessalon perrles
   ultram
   lopressor
   colace
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2129-1-15**] 11:23 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.6
C (101.4
   Tcurrent: 36.8
C (98.3
   HR: 72 (69 - 94) bpm
   BP: 99/33(49) {84/33(49) - 115/69(76)} mmHg
   RR: 20 (15 - 33) insp/min
   SpO2: 91%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                    840 mL
                                                                    680 mL
   PO:
                                                                    240 mL
             TF:
   IVF:
                                                                    600 mL
                                                                    160 mL
   Blood products:
   Total out:
                                                                  2,470 mL
                                                                  1,100 mL
   Urine:
                                                                  2,470 mL
                                                                  1,100 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,630 mL
                                                                   -420 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula, Aerosol-cool
   SpO2: 91%
   ABG: ///32/
   Physical Examination
   General Appearance: mild distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Crackles : b/l coarse)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.4 g/dL
   189 K/uL
   110 mg/dL
   0.6 mg/dL
   32 mEq/L
   3.5 mEq/L
   12 mg/dL
   91 mEq/L
   130 mEq/L
   27.9 %
   9.4 K/uL
        [image002.jpg]
                             [**2129-1-10**]  11:27 PM
                             [**2129-1-11**]  03:46 AM
                             [**2129-1-11**]  11:13 AM
                             [**2129-1-12**]  03:05 AM
                             [**2129-1-13**]  02:53 AM
                             [**2129-1-13**]  02:19 PM
                             [**2129-1-13**]  09:00 PM
                             [**2129-1-14**]  03:30 AM
                             [**2129-1-14**]  06:40 AM
                             [**2129-1-15**]  04:22 AM
   WBC
   7.5
   7.7
   6.5
   7.9
   8.4
   9.4
   Hct
   27.1
   28.8
   29.5
   29.2
   28.5
   27.9
   Plt
   190
   201
   194
   [**Telephone/Fax (3) 4907**]
   Cr
   0.6
   0.6
   0.7
   0.7
   0.7
   0.6
   0.6
   0.7
   0.6
   TropT
   <0.01
   <0.01
   Glucose
   194
   197
   121
   124
   142
   133
   133
   119
   110
   Other labs: PT / PTT / INR:17.0/31.8/1.5, CK / CKMB /
   Troponin-T:265/5/<0.01, ALT / AST:15/46, Alk Phos / T Bili:90/0.7,
   Amylase / Lipase:20/11, Differential-Neuts:80.1 %, Band:0.0 %,
   Lymph:11.6 %, Mono:6.9 %, Eos:1.1 %, Lactic Acid:2.1 mmol/L,
   Albumin:2.9 g/dL, LDH:186 IU/L, Ca++:7.7 mg/dL, Mg++:1.7 mg/dL, PO4:2.7
   mg/dL
   Microbiology: +RSV from nasal swab.
   Assessment and Plan
   Respiratory distress:  continued hypoxemia and high oxygen
   requirement.   Continues to spike fevers.  +RSV.  Continue supportive
   care.  Can cut back on diuresis as seems dry on exam.
   RSV Pneumonia.
   AF with RVR: responds to IV lopressor.
   Hyponatremia improved.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2129-1-9**] 12:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2129-01-16 07:05:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - pt appearing dry, changed lasix to 40 mg daily (from [**Hospital1 **])
   - tried to wean O2 but still on high flow mask and 6L NC
   - converted to NSR
   - no big changes made to presumed RSV pneumonia
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Unknown;
   Last dose of Antibiotics:
   Ceftriaxone - [**2129-1-14**] 12:00 AM
   Vancomycin - [**2129-1-14**] 08:30 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2129-1-15**] 08:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2129-1-16**] 07:05 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.6
C (97.8
   HR: 63 (63 - 91) bpm
   BP: 93/52(62) {85/33(49) - 121/62(71)} mmHg
   RR: 20 (14 - 29) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  1,200 mL
                                                                    851 mL
   PO:
                                                                    260 mL
                                                                    680 mL
   TF:
   IVF:
                                                                    300 mL
                                                                    171 mL
   Blood products:
   Total out:
                                                                  1,510 mL
                                                                    410 mL
   Urine:
                                                                  1,510 mL
                                                                    410 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -310 mL
                                                                    441 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 96%
   ABG: ///30/
   Physical Examination
   General Appearance: Well nourished, No acute distress, No(t) Anxious
   Eyes / Conjunctiva: PERRL, MMM and OP clear
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic,
   No(t) Diastolic), tachy and irregular
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Clear : , Crackles : bibasilar coarse crackles, no
   wheezes
   Skin:  no rash
   Neurologic: Responds to: Not assessed, Movement: spontaneous,
   purposeful, Tone: Not assessed, decreased sensation in L leg but full
   ROM, dopplerable pulses, strength 5/5
   Labs / Radiology
   194 K/uL
   9.4 g/dL
   119 mg/dL
   0.7 mg/dL
   30 mEq/L
   3.7 mEq/L
   12 mg/dL
   90 mEq/L
   128 mEq/L
   27.8 %
   12.4 K/uL
        [image002.jpg]
                             [**2129-1-11**]  03:46 AM
                             [**2129-1-11**]  11:13 AM
                             [**2129-1-12**]  03:05 AM
                             [**2129-1-13**]  02:53 AM
                             [**2129-1-13**]  02:19 PM
                             [**2129-1-13**]  09:00 PM
                             [**2129-1-14**]  03:30 AM
                             [**2129-1-14**]  06:40 AM
                             [**2129-1-15**]  04:22 AM
                             [**2129-1-16**]  02:18 AM
   WBC
   7.5
   7.7
   6.5
   7.9
   8.4
   9.4
   12.4
   Hct
   27.1
   28.8
   29.5
   29.2
   28.5
   27.9
   27.8
   Plt
   190
   201
   194
   [**Telephone/Fax (3) 4907**]
   194
   Cr
   0.6
   0.7
   0.7
   0.7
   0.6
   0.6
   0.7
   0.6
   0.7
   TropT
   <0.01
   <0.01
   Glucose
   197
   121
   124
   142
   133
   133
   119
   110
   119
   Other labs: PT / PTT / INR:17.5/32.2/1.6, CK / CKMB /
   Troponin-T:265/5/<0.01, ALT / AST:15/46, Alk Phos / T Bili:90/0.7,
   Amylase / Lipase:20/11, Differential-Neuts:80.1 %, Band:0.0 %,
   Lymph:11.6 %, Mono:6.9 %, Eos:1.1 %, Lactic Acid:2.1 mmol/L,
   Albumin:2.9 g/dL, LDH:186 IU/L, Ca++:7.7 mg/dL, Mg++:1.6 mg/dL, PO4:2.8
   mg/dL
   Assessment and Plan
   72 y/o gentleman with CHF Afib with RVR with hypoxia from RSV PNA,
   idiopathic pulmonary fibrosis, and pulmonary edema off Abx on Lasix.
   Patient has  h/o gastric ulcer bleed s/p surgery, CAD, HTN, ? Hep C
   infection admitted with BRBPR, now transfer back to MICU with Afib with
   RVR.
   .
   # Hypoxia
 Patient has worsening respiratory status; continues to
   require face mask and NC O2.  Patient has RSV PNA, idiopathic pulmonary
   fibrosis, and pulmonary edema.  Despite Echo, patient has CHF and this
   can be contributing to the pulmonary edema. Working diagnosis includes
   fluid overload on top of underlying lung disease in setting of afib
   with RVR and loss of atrial 10% forward flow. Patient has been
   diuresied with Lasix 40mg IV BID. Patient was on continue vanco and
   ceftriaxone, has GPCs in pair and clusters on sputum, unclear if this
   is source of fever because he continues to spike despite coverage, but
   stopped Abx [**1-14**] since RSV positive. Patient placed on droplet
   precautions. AFB negative x3, no concern for TB.
   - probably is RSV pneumonia on top of very poor lungs,  having hard
   time recovering
   - diuresis not improving patient much, appearing dry (clinically and
   based on urine lytes)
 will titrate down lasix (40mg qday, c/s holding
   today)
   .
   # Fevers
 Afebrile overnight. IR did diagnostic paracentesis and no
   evidence of SBP.
   - f/u blood, sputum, stool, urine
   - likely related to viral PNA
   .
   # Afib with RVR. Continues to be in afib but well rate controlled on
   dilt, could be cause of poor heart function causing pulmonary edema.
   Patient is on max dose Dilt 90mg PO QID and continues to have episodes
   of RVR, started metoprolol 12.5mg PO BID on [**1-14**]. TSH elevated,
   considered to be sick euthyroid. Echo showed normal ejection fraction
   and no evidence of structural heart disease.
   - cont dilt 90 mg qid
   - cont metoprolol 12. 5 mg [**Hospital1 **]
   - BPs stable
   - consider anticoagulation in the long run
   .
   # Relative hypotension.  To SBP 90s after receiving 1 IV dilaudid and
   IV/PO metoprolol with Afib/RVR in addition.  Now remaining in the 90s
   up to 100s now, but tolerating well, likely from diltiazem/ metoprolol
   treatment, continues to be in 90s-100s
   - likely in setting of nodal blockade for afib and overdiuresis -> will
   hold lasix today and monitor UOP
   - no change in mentation, or change in UO, perfusing appropriately
   .
   # chronic pain disorder
 started tramadol on [**1-14**]. Patient has been on
   IV dilaudid chronically.
   - control with tramadol and diluadid PRN
   - back pain likely contributing to sciatica down L leg
   .
   # GIB: stable, CT showed colitis at the hepatic flexure to rectosigmoid
   junction. DDx includes ischemic, however large vessels were patent in
   prelim read of CT. Infectious suggestive on CT scan and inflammatory
   also on the differential. GI following.  No transfusions required with
   continued stable hematocrit, although trending downward steadily.
   - stable, now checking only daily hcts
   - continue to trend Hct, tx for hct <25
   - IV PPI [**Hospital1 **]
   - active type and cross
   - monitor hemodynamically and maintain access.
   .
   #Colitis: see above. Possible ischemic vs infectious, although in
   setting afib more likely ischemic. Further workup did not support this
   and the abdominal pain appears to be from chronic pain disorder.
   - colonoscopy as inpatient v. outpatient to evaluate per GI
   - stopping antibiotics
   - c.diff and other stool cultures neg
   - on reg diet
   .
   # Hyponatremia
 likely from SIADH
   - fluid restriction for now
   - continue to monitor
     .
   # Hep C infection: Pt states he has a history of hep c.
   - HCV VL 3 million
   - liver on CT scan is unremarkable
   - likely cause of elevated INR, not actively bleeding, does not need to
   be reversed
   .
   # h/o CAD: CP c/w chronic angina symptoms. EKG without any acute
   changes except had demand ischemia when in afib with high rates, repeat
   EKGs were normal.  Patient completed ROMI.
   - on ASA.
   .
   # FEN: fluid restricted and reg diet
   .
   # PPx: pneumoboots, protonix IV BID
   .
   # Access PICC [**1-12**]
   .
   # Code: full
   .
   # Dispo: ICU for now pending improvement of resp status
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2129-1-9**] 12:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2129-01-16 11:53:00 Physician Attending Progress Note
Chief Complaint: respiratory distress
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   72 yo man with AF, institital lung disease, RSV PNA.  Converted to NSR
   rhythm yesterday.  Afebrile past 24 hours.
   24 Hour Events:
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Unknown;
   Last dose of Antibiotics:
   Ceftriaxone - [**2129-1-14**] 12:00 AM
   Vancomycin - [**2129-1-14**] 08:30 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2129-1-15**] 08:00 PM
   Other medications:
   combivent
   diltiazem
   tessalon perrles
   tramadol
   lopressor
   colace
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2129-1-16**] 11:52 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.1
C (97
   HR: 66 (59 - 91) bpm
   BP: 91/39(52) {85/39(52) - 121/62(71)} mmHg
   RR: 16 (14 - 29) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  1,200 mL
                                                                    896 mL
   PO:
                                                                    260 mL
                                                                    680 mL
   TF:
   IVF:
                                                                    300 mL
                                                                    216 mL
   Blood products:
   Total out:
                                                                  1,510 mL
                                                                    710 mL
   Urine:
                                                                  1,510 mL
                                                                    710 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -310 mL
                                                                    186 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 97%
   ABG: ///30/
   Physical Examination
   General Appearance: No acute distress, Thin
   Eyes / Conjunctiva: PERRL
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Crackles : b/l left>right)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): times 3, Movement: Purposeful, Tone: Not
   assessed
   Labs / Radiology
   9.4 g/dL
   194 K/uL
   119 mg/dL
   0.7 mg/dL
   30 mEq/L
   3.7 mEq/L
   12 mg/dL
   90 mEq/L
   128 mEq/L
   27.8 %
   12.4 K/uL
        [image002.jpg]
                             [**2129-1-11**]  03:46 AM
                             [**2129-1-11**]  11:13 AM
                             [**2129-1-12**]  03:05 AM
                             [**2129-1-13**]  02:53 AM
                             [**2129-1-13**]  02:19 PM
                             [**2129-1-13**]  09:00 PM
                             [**2129-1-14**]  03:30 AM
                             [**2129-1-14**]  06:40 AM
                             [**2129-1-15**]  04:22 AM
                             [**2129-1-16**]  02:18 AM
   WBC
   7.5
   7.7
   6.5
   7.9
   8.4
   9.4
   12.4
   Hct
   27.1
   28.8
   29.5
   29.2
   28.5
   27.9
   27.8
   Plt
   190
   201
   194
   [**Telephone/Fax (3) 4907**]
   194
   Cr
   0.6
   0.7
   0.7
   0.7
   0.6
   0.6
   0.7
   0.6
   0.7
   TropT
   <0.01
   <0.01
   Glucose
   197
   121
   124
   142
   133
   133
   119
   110
   119
   Other labs: PT / PTT / INR:17.5/32.2/1.6, CK / CKMB /
   Troponin-T:265/5/<0.01, ALT / AST:15/46, Alk Phos / T Bili:90/0.7,
   Amylase / Lipase:20/11, Differential-Neuts:80.1 %, Band:0.0 %,
   Lymph:11.6 %, Mono:6.9 %, Eos:1.1 %, Lactic Acid:2.1 mmol/L,
   Albumin:2.9 g/dL, LDH:186 IU/L, Ca++:7.7 mg/dL, Mg++:1.6 mg/dL, PO4:2.8
   mg/dL
   Assessment and Plan
   Respiratory distress:  Underlying IPF with RSV PNA.  Slight improvement
   today with decreased oxygen need, decreased RR, and decreased temp.
   Continue supportive care.
   AF RVR:  continue PO dilt and lopressor
   CHF:  lasix tapered back.
   Hyponatremia:  continue free water restriction
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2129-1-9**] 12:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2129-01-17 06:11:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - hyponatremia improved with fluid restriction (did not diurese)
   - AF controlled throughout the day, titrated down dilt to 60mg QID [**12-20**]
   low pressures
   - had acute hypoxic episode in the PM with R-sided pleuritic pain ->
   CXR unchanged, improved with nebs and increased FiO2.  ABG at that
   time: 7.51/41/80/34 on high flow O2 (~85%)
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2129-1-14**] 08:30 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2129-1-17**] 06:11 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.1
C (97
   Tcurrent: 35.7
C (96.2
   HR: 74 (59 - 92) bpm
   BP: 101/55(76) {81/39(52) - 126/71(80)} mmHg
   RR: 21 (15 - 30) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  1,820 mL
                                                                    852 mL
   PO:
                                                                  1,480 mL
                                                                    790 mL
   TF:
   IVF:
                                                                    340 mL
                                                                     62 mL
   Blood products:
   Total out:
                                                                  2,290 mL
                                                                    335 mL
   Urine:
                                                                  2,290 mL
                                                                    335 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -470 mL
                                                                    517 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 98%
   ABG: 7.51/41/80.[**Numeric Identifier 20**]/32/8
   PaO2 / FiO2: 100
   Physical Examination
   General Appearance: Well nourished, sitting up
   Eyes / Conjunctiva: PERRL, MMM and OP clear
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic,
   No(t) Diastolic), tachy and irregular
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Clear : , Crackles : bibasilar coarse crackles, no
   wheezes
   Skin:  no rash
   Neurologic: Responds to: Not assessed, Movement: spontaneous,
   purposeful, Tone: Not assessed, decreased sensation in L leg but full
   ROM, dopplerable pulses, strength 5/5
   Labs / Radiology
   202 K/uL
   9.5 g/dL
   115 mg/dL
   0.6 mg/dL
   32 mEq/L
   3.6 mEq/L
   10 mg/dL
   93 mEq/L
   131 mEq/L
   28.1 %
   10.3 K/uL
        [image002.jpg]
                             [**2129-1-13**]  02:53 AM
                             [**2129-1-13**]  02:19 PM
                             [**2129-1-13**]  09:00 PM
                             [**2129-1-14**]  03:30 AM
                             [**2129-1-14**]  06:40 AM
                             [**2129-1-15**]  04:22 AM
                             [**2129-1-16**]  02:18 AM
                             [**2129-1-16**]  09:47 PM
                             [**2129-1-16**]  10:25 PM
                             [**2129-1-17**]  02:54 AM
   WBC
   7.9
   8.4
   9.4
   12.4
   10.3
   Hct
   29.2
   28.5
   27.9
   27.8
   28.1
   Plt
   [**Telephone/Fax (3) 4957**]94
   202
   Cr
   0.7
   0.6
   0.6
   0.7
   0.6
   0.7
   0.6
   0.6
   TCO2
   34
   Glucose
   142
   133
   133
   119
   110
   119
   137
   115
   Other labs: PT / PTT / INR:17.5/32.2/1.6, CK / CKMB /
   Troponin-T:265/5/<0.01, ALT / AST:15/46, Alk Phos / T Bili:90/0.7,
   Amylase / Lipase:20/11, Differential-Neuts:80.1 %, Band:0.0 %,
   Lymph:11.6 %, Mono:6.9 %, Eos:1.1 %, Lactic Acid:2.0 mmol/L,
   Albumin:2.9 g/dL, LDH:186 IU/L, Ca++:7.8 mg/dL, Mg++:1.8 mg/dL, PO4:3.3
   mg/dL
   Assessment and Plan
   72 y/o gentleman with CHF Afib with RVR with hypoxia from RSV PNA,
   idiopathic pulmonary fibrosis, and pulmonary edema off Abx on Lasix.
   Patient has h/o gastric ulcer bleed s/p surgery, CAD, HTN, ? Hep C
   infection admitted with BRBPR, now transfered back to MICU for Afib
   with RVR.
   .
   # Hypoxia
 Patient has RSV PNA, idiopathic pulmonary fibrosis, and
   pulmonary edema.  Despite Echo, patient has CHF and this can be
   contributing to the pulmonary edema. Working diagnosis includes fluid
   overload in addition to underlying lung disease in setting of afib with
   RVR and loss of atrial 10% forward flow. Patient was diuresed with
   Lasix and treated with Vanc/Ceftriaxone for GPCs in pair and clusters
   in sputum. Despite abx, pt continued to spike fevers
 tested positive
   for RSV, abx d/c
d [**1-14**]. Patient placed on droplet precautions. AFB
   negative x3, no concern for TB.
   Pt had acute hypoxic episode yesterday afternoon with R-sided pleuritic
   pain -> CXR unchanged, improved with nebs and increased FiO2.  ABG at
   that time: 7.51/41/80/34 on high flow O2 (~85%)
   - Differentials include mucus plugging and PE
   - Check LENIs for DVT, if negative check CTA to rule out PE; even small
   PE may severely affect resp status given his baseline IPF. If +PE, need
   to discuss anticoagulation vs IV filter with GI, as pt is high risk for
   rebleed.
   - Hypoxia likely due to RSV PNA in the setting of IPF. Continue to hold
   abx and give supportive tx.
   .
   # H/o fevers
 now resolved. Afebrile overnight.
   - f/u blood, sputum, stool, urine
   - likely related to viral PNA
   .
   # Afib with RVR. In NSR now. PO dilt decreased to 60 mg QID due to
   relative hypotension. Continues on metoprolol 12.5mg PO BID. TSH
   elevated, however considered to be sick euthyroid. Echo showed normal
   ejection fraction and no evidence of structural heart disease.
   - cont dilt 60 mg qid
   - cont metoprolol 12. 5 mg [**Hospital1 **]
   - BPs stable
   - consider anticoagulation in the long run; will need to discuss with
   GI given h/o GIB
   .
   # Relative hypotension. Limiting Dilt and Metoprolol therapy for A fib
   - likely in setting of nodal blockade for afib.
   - no diuresis at this time as clinically appears somewhat dry;
   .
   # chronic pain disorder
 started tramadol on [**1-14**]. Patient has been on
   IV dilaudid chronically.
   - control with tramadol and diluadid PRN
   - back pain likely contributing to sciatica down L leg
   .
   # h/o GIB: stable, CT showed colitis at the hepatic flexure to
   rectosigmoid junction. DDx includes ischemic, however large vessels
   were patent in prelim read of CT. Infectious suggestive on CT scan and
   inflammatory also on the differential. GI following.  No transfusions
   required with continued stable hematocrit, although trending downward
   steadily.
   - stable, now checking only daily hcts
   - continue to trend Hct, tx for hct <25
   - IV PPI [**Hospital1 **]
   - monitor hemodynamically and maintain access.
   .
   #Colitis: see above. Possible ischemic vs infectious, although in
   setting afib more likely ischemic. Further workup did not support this
   and the abdominal pain appears to be from chronic pain disorder.
   - colonoscopy as inpatient v. outpatient to evaluate per GI
   - stopping antibiotics
   - c.diff and other stool cultures neg
   - on reg diet
   .
   # Hyponatremia
 likely from SIADH; improving with fluid restriction
   - fluid restriction for now
   - continue to monitor
     .
   # Hep C infection: Pt states he has a history of hep c.
   - HCV VL 3 million
   - liver on CT scan is unremarkable
   - likely cause of elevated INR, not actively bleeding, does not need to
   be reversed
   .
   # h/o CAD: CP c/w chronic angina symptoms. EKG without any acute
   changes except had demand ischemia when in afib with high rates, repeat
   EKGs were normal.  Patient completed ROMI.
   - on ASA.
   .
   # FEN: fluid restricted and reg diet
   .
   # PPx: Hep SQ, protonix IV BID
   .
   # Access: PICC [**1-12**]
   .
   # Code: full; will discuss with patient again
   .
   # Dispo: ICU for now pending improvement of resp status
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2129-1-9**] 12:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2129-01-18 07:06:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: CC: GI bleed
   Reason for MICU transfer: Afib with RVR
   24 Hour Events:
 ULTRASOUND - At [**2129-1-17**] 12:00 PM
   LENI
   - LENIs showing superficial clots but no DVTs -> CTA done; no PE.
   Worsening reticular/ground glass opacities in LUL and LLL. Bilat
   pleural eff have improved. Increased consolidation in posterior RUL.
   Fluid/oblong density in esophagus.
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2129-1-17**] 08:00 PM
   Heparin Sodium (Prophylaxis) - [**2129-1-17**] 08:37 PM
   Diltiazem - [**2129-1-18**] 04:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems: Cont. to feel SOB, abdominal pain below the
   umbilicus, pain in LLE, moved bowels this am.
   Flowsheet Data as of  [**2129-1-18**] 07:05 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 37.2
C (98.9
   HR: 75 (66 - 85) bpm
   BP: 92/50(61) {87/38(27) - 124/77(82)} mmHg
   RR: 24 (15 - 32) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  1,842 mL
                                                                    296 mL
   PO:
                                                                  1,690 mL
                                                                    250 mL
   TF:
   IVF:
                                                                    152 mL
                                                                     46 mL
   Blood products:
   Total out:
                                                                  1,805 mL
                                                                    325 mL
   Urine:
                                                                  1,805 mL
                                                                    325 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     37 mL
                                                                    -29 mL
   Respiratory support
   O2 Delivery Device: High flow nasal cannula
   SpO2: 96%
   ABG: ///32/
   Physical Examination
   General Appearance: Well nourished, sitting up
   Eyes / Conjunctiva: PERRL, MMM and OP clear
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic,
   No(t) Diastolic), tachy and irregular
   Respiratory / Chest: (Expansion: Symmetric), bilateral dry crackles
   throughout
   Abdomen: +BS, soft, tender below the umbilicus in area of hernia, no
   rebound or guarding
   Skin:  no rash
   Neurologic: Responds to: Not assessed, Movement: spontaneous,
   purposeful, Tone: Not assessed, decreased sensation in L leg but full
   ROM, dopplerable pulses, strength 5/5
   Labs / Radiology
   273 K/uL
   9.2 g/dL
   124 mg/dL
   0.6 mg/dL
   32 mEq/L
   3.6 mEq/L
   8 mg/dL
   94 mEq/L
   131 mEq/L
   27.5 %
   10.6 K/uL
        [image002.jpg]
                             [**2129-1-13**]  02:19 PM
                             [**2129-1-13**]  09:00 PM
                             [**2129-1-14**]  03:30 AM
                             [**2129-1-14**]  06:40 AM
                             [**2129-1-15**]  04:22 AM
                             [**2129-1-16**]  02:18 AM
                             [**2129-1-16**]  09:47 PM
                             [**2129-1-16**]  10:25 PM
                             [**2129-1-17**]  02:54 AM
                             [**2129-1-18**]  03:16 AM
   WBC
   8.4
   9.4
   12.4
   10.3
   10.6
   Hct
   28.5
   27.9
   27.8
   28.1
   27.5
   Plt
   181
   189
   194
   202
   273
   Cr
   0.6
   0.6
   0.7
   0.6
   0.7
   0.6
   0.6
   0.6
   TCO2
   34
   Glucose
   133
   133
   119
   110
   119
   137
   115
   124
   Other labs: PT / PTT / INR:17.7/31.5/1.6, Ca++:7.7 mg/dL, Mg++:1.7
   mg/dL, PO4:3.3 mg/dL
   CXR [**2129-1-18**]: FINDINGS: In comparison with the study of [**1-17**], diffuse
   interstitial lung disease persists. It is difficult to detect any area
   of acute focal pneumonia radiographically, since this could easily be
   hidden within the widespread interstitial disease. Central catheter
   remains in place.
   CTA Chest [**2129-1-17**]: No PE seen. Compared to CT of [**2129-1-12**], areas of
   reticular and ground glass densities have become more extensive
   particularly in the LUL, but also in posterior areas of the LLL; this
   could represent increased extent of pulmonary edema superimposed on
   emphysema, however, a fibrotic process is also a
   consideration, esp with areas of bronchiectasis in RML and RLL.
   Bilateral pleural effusions have improved. There is also area of
   increased consolidation in the posterior RUL (3:12), which could
   represent also superimposed infection. Mediastinal and R>L hilar
   adenopathy. Fluid and oblong density in esophagus. Ascites, post
   surgical changes at GE junction, and upper abdominal lymph nodes, as
   seen on recent CT abd/pelv.
   Bilat LENIs [**2129-1-17**]: IMPRESSION: Thrombosis is seen in several
   superficial veins, however, no evidence of deep venous thrombosis seen.
   Assessment and Plan
   72 y/o gentleman with CHF Afib with RVR with hypoxia from RSV PNA,
   idiopathic pulmonary fibrosis, and pulmonary edema off Abx on Lasix.
   Patient has h/o gastric ulcer bleed s/p surgery, CAD, HTN, ? Hep C
   infection admitted with BRBPR, now transfered back to MICU for Afib
   with RVR.
   .
   # Hypoxia
 Patient has RSV PNA, idiopathic pulmonary fibrosis, and
   pulmonary edema.  Despite Echo, patient has CHF and this can be
   contributing to the pulmonary edema. Working diagnosis includes fluid
   overload in addition to underlying lung disease in setting of afib with
   RVR and loss of atrial 10% forward flow. Patient was diuresed with
   Lasix and treated with Vanc/Ceftriaxone for GPCs in pair and clusters
   in sputum. Despite abx, pt continued to spike fevers
 tested positive
   for RSV, abx d/c
d [**1-14**]. Patient placed on droplet precautions. AFB
   negative x3, no concern for TB.
   Oxygen requirements have remained stable since yesterday.  LENIs show
   no DVT and CTA no PE.  However, CTA does show worsening of fibrotic
   disease, concerning for accelerated IPF and likely also related to RSV
   infection.  Continue to hold abx and give supportive tx.
   - start solumedrol 125 mg Q8H for IPF
   - f/u final results of imaging
   .
   # H/o fevers
 now resolved. Afebrile overnight.
   - f/u blood, sputum, stool, urine
 neg. to date
   - likely related to RSV PNA
   .
   # Afib with RVR. In NSR now. PO dilt decreased to 60 mg QID due to
   relative hypotension. Continues on metoprolol 12.5mg PO BID. TSH
   elevated, however considered to be sick euthyroid. Echo showed normal
   ejection fraction and no evidence of structural heart disease.
   - cont dilt 60 mg qid
   - cont metoprolol 12. 5 mg [**Hospital1 **]
   - BPs stable
   - consider anticoagulation in the long run; will need to discuss with
   GI given h/o GIB
   .
   # Relative hypotension. Limiting Dilt and Metoprolol therapy for A
   fib
   - likely in setting of nodal blockade for afib.
   - no diuresis at this time as clinically appears somewhat dry;
   .
   # chronic pain disorder
 started tramadol on [**1-14**]. Patient has been on
   IV dilaudid chronically.
   - control with tramadol and diluadid PRN
   - back pain likely contributing to sciatica down L leg
   - some of leg pain may be related to superficial clots, will provide
   warm compresses to area
   .
   # h/o GIB: stable, CT showed colitis at the hepatic flexure to
   rectosigmoid junction. DDx includes ischemic, however large vessels
   were patent in prelim read of CT. Infectious suggestive on CT scan and
   inflammatory also on the differential. GI following.  No transfusions
   required with continued stable hematocrit, although trending downward
   steadily.
   - stable, now checking only daily hcts
   - continue to trend Hct, tx for hct <25
   - IV PPI [**Hospital1 **]
   - monitor hemodynamically and maintain access.
   .
   #Colitis: see above. Possible ischemic vs infectious, although in
   setting afib more likely ischemic. Further workup did not support this
   and the abdominal pain appears to be from chronic pain disorder.
   - colonoscopy as inpatient v. outpatient to evaluate per GI
   - stopping antibiotics
   - c.diff and other stool cultures neg
   - on reg diet
   .
   # Hyponatremia
 likely from SIADH; improving with fluid restriction
   - fluid restriction for now
   - continue to monitor
     .
   # Hep C infection: Pt states he has a history of hep c.
   - HCV VL 3 million
   - liver on CT scan is unremarkable
   - likely cause of elevated INR, not actively bleeding, does not need to
   be reversed
   .
   # h/o CAD: CP c/w chronic angina symptoms. EKG without any acute
   changes except had demand ischemia when in afib with high rates, repeat
   EKGs were normal.  Patient completed ROMI.
   - on ASA.
   .
   # FEN: fluid restricted and reg diet; will check finger sticks given
   high dose steroids
   .
   # PPx: Hep SQ, protonix IV BID
   .
   # Access: PICC [**1-12**]
   .
   # Code: full; will discuss with patient his wishes given worsening IPF
   and increased O2 requirements.
   .
   # Dispo: ICU for now pending improvement of resp status
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2129-1-9**] 12:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2129-01-19 07:05:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - Started Solumedrol w/ fingersticks and ISS
   - Spiked T 100.4 - pan cultured
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Diltiazem - [**2129-1-18**] 10:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2129-1-19**] 07:04 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.5
   Tcurrent: 36.1
C (96.9
   HR: 78 (65 - 88) bpm
   BP: 96/60(69) {72/31(47) - 110/91(95)} mmHg
   RR: 20 (15 - 30) insp/min
   SpO2: 91%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                    860 mL
                                                                     71 mL
   PO:
                                                                    590 mL
             TF:
   IVF:
                                                                    270 mL
                                                                     71 mL
   Blood products:
   Total out:
                                                                  1,085 mL
                                                                    500 mL
   Urine:
                                                                  1,085 mL
                                                                    500 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -225 mL
                                                                   -430 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula, High flow neb
   SpO2: 91%
   ABG: ///33/
   Physical Examination
   General Appearance: Well nourished, sitting up
   Eyes / Conjunctiva: PERRL, MMM and OP clear
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic,
   No(t) Diastolic), tachy and irregular
   Respiratory / Chest: (Expansion: Symmetric), bilateral dry crackles
   throughout
   Abdomen: +BS, soft, tender below the umbilicus in area of hernia, no
   rebound or guarding
   Skin:  no rash
   Neurologic: Responds to: Not assessed, Movement: spontaneous,
   purposeful, Tone: Not assessed, decreased sensation in L leg but full
   ROM, dopplerable pulses, strength 5/5
   Labs / Radiology
   294 K/uL
   8.9 g/dL
   162 mg/dL
   0.5 mg/dL
   33 mEq/L
   4.1 mEq/L
   12 mg/dL
   97 mEq/L
   133 mEq/L
   26.0 %
   7.0 K/uL
        [image002.jpg]
                             [**2129-1-13**]  09:00 PM
                             [**2129-1-14**]  03:30 AM
                             [**2129-1-14**]  06:40 AM
                             [**2129-1-15**]  04:22 AM
                             [**2129-1-16**]  02:18 AM
                             [**2129-1-16**]  09:47 PM
                             [**2129-1-16**]  10:25 PM
                             [**2129-1-17**]  02:54 AM
                             [**2129-1-18**]  03:16 AM
                             [**2129-1-19**]  04:18 AM
   WBC
   8.4
   9.4
   12.4
   10.3
   10.6
   7.0
   Hct
   28.5
   27.9
   27.8
   28.1
   27.5
   26.0
   Plt
   181
   189
   194
   [**Telephone/Fax (3) 5011**]
   Cr
   0.6
   0.7
   0.6
   0.7
   0.6
   0.6
   0.6
   0.5
   TCO2
   34
   Glucose
   133
   119
   110
   119
   137
   115
   124
   162
   Other labs: PT / PTT / INR:17.6/32.4/1.6, CK / CKMB /
   Troponin-T:265/5/<0.01, ALT / AST:15/46, Alk Phos / T Bili:90/0.7,
   Amylase / Lipase:20/11, Differential-Neuts:80.1 %, Band:0.0 %,
   Lymph:11.6 %, Mono:6.9 %, Eos:1.1 %, Lactic Acid:2.0 mmol/L,
   Albumin:2.9 g/dL, LDH:186 IU/L, Ca++:8.0 mg/dL, Mg++:2.0 mg/dL, PO4:3.4
   mg/dL
   Assessment and Plan
   72 y/o gentleman with CHF Afib with RVR with hypoxia from RSV PNA,
   idiopathic pulmonary fibrosis, and pulmonary edema off Abx on Lasix.
   Patient has h/o gastric ulcer bleed s/p surgery, CAD, HTN, ? Hep C
   infection admitted with BRBPR, now transfered back to MICU for Afib
   with RVR.
   .
   # Hypoxia
 Patient has RSV PNA, idiopathic pulmonary fibrosis, and
   pulmonary edema.  Despite Echo, patient has CHF and this can be
   contributing to the pulmonary edema. Working diagnosis includes fluid
   overload in addition to underlying lung disease in setting of afib with
   RVR and loss of atrial 10% forward flow. Patient was diuresed with
   Lasix and treated with Vanc/Ceftriaxone for GPCs in pair and clusters
   in sputum. Despite abx, pt continued to spike fevers
 tested positive
   for RSV, abx d/c
d [**1-14**]. Patient placed on droplet precautions. AFB
   negative x3, no concern for TB.
   Oxygen requirements have remained stable since yesterday.  LENIs show
   no DVT and CTA no PE.  However, CTA does show worsening of fibrotic
   disease, concerning for accelerated IPF and likely also related to RSV
   infection.  Continue to hold abx and give supportive tx.
   - start solumedrol 125 mg Q8H for IPF
   - f/u final results of imaging
   .
   # H/o fevers
 now resolved. Afebrile overnight.
   - f/u blood, sputum, stool, urine
 neg. to date
   - likely related to RSV PNA
   .
   # Afib with RVR. In NSR now. PO dilt decreased to 60 mg QID due to
   relative hypotension. Continues on metoprolol 12.5mg PO BID. TSH
   elevated, however considered to be sick euthyroid. Echo showed normal
   ejection fraction and no evidence of structural heart disease.
   - cont dilt 60 mg qid
   - cont metoprolol 12. 5 mg [**Hospital1 **]
   - BPs stable
   - consider anticoagulation in the long run; will need to discuss with
   GI given h/o GIB
   .
   # Relative hypotension. Limiting Dilt and Metoprolol therapy for A
   fib
   - likely in setting of nodal blockade for afib.
   - no diuresis at this time as clinically appears somewhat dry;
   .
   # chronic pain disorder
 started tramadol on [**1-14**]. Patient has been on
   IV dilaudid chronically.
   - control with tramadol and diluadid PRN
   - back pain likely contributing to sciatica down L leg
   - some of leg pain may be related to superficial clots, will provide
   warm compresses to area
   .
   # h/o GIB: stable, CT showed colitis at the hepatic flexure to
   rectosigmoid junction. DDx includes ischemic, however large vessels
   were patent in prelim read of CT. Infectious suggestive on CT scan and
   inflammatory also on the differential. GI following.  No transfusions
   required with continued stable hematocrit, although trending downward
   steadily.
   - stable, now checking only daily hcts
   - continue to trend Hct, tx for hct <25
   - IV PPI [**Hospital1 **]
   - monitor hemodynamically and maintain access.
   .
   #Colitis: see above. Possible ischemic vs infectious, although in
   setting afib more likely ischemic. Further workup did not support this
   and the abdominal pain appears to be from chronic pain disorder.
   - colonoscopy as inpatient v. outpatient to evaluate per GI
   - stopping antibiotics
   - c.diff and other stool cultures neg
   - on reg diet
   .
   # Hyponatremia
 likely from SIADH; improving with fluid restriction
   - fluid restriction for now
   - continue to monitor
     .
   # Hep C infection: Pt states he has a history of hep c.
   - HCV VL 3 million
   - liver on CT scan is unremarkable
   - likely cause of elevated INR, not actively bleeding, does not need to
   be reversed
   .
   # h/o CAD: CP c/w chronic angina symptoms. EKG without any acute
   changes except had demand ischemia when in afib with high rates, repeat
   EKGs were normal.  Patient completed ROMI.
   - on ASA.
   .
   # FEN: fluid restricted and reg diet; will check finger sticks given
   high dose steroids
   .
   # PPx: Hep SQ, protonix IV BID
   .
   # Access: PICC [**1-12**]
   .
   # Code: full; will discuss with patient his wishes given worsening IPF
   and increased O2 requirements.
   .
   # Dispo: ICU for now pending improvement of resp status
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2129-1-9**] 12:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2129-01-20 07:08:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Started fentanyl patch
   - During rounds the patient has a drop in O2sat% in the 70s with
   dyspnea, O2 sats increased to low 90s with 100% FiO2 via NRB
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2129-1-20**] 07:07 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 35.6
C (96
   Tcurrent: 35.6
C (96
   HR: 68 (68 - 88) bpm
   BP: 97/51(62) {80/45(55) - 129/94(98)} mmHg
   RR: 15 (15 - 30) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                    820 mL
                                                                    321 mL
   PO:
                                                                    580 mL
                                                                    250 mL
   TF:
   IVF:
                                                                    240 mL
                                                                     71 mL
   Blood products:
   Total out:
                                                                  1,285 mL
                                                                    200 mL
   Urine:
                                                                  1,285 mL
                                                                    200 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -465 mL
                                                                    121 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula, Aerosol-cool
   SpO2: 93%
   ABG: ///29/
   Physical Examination
   General Appearance: Well nourished, sitting up
   Eyes / Conjunctiva: PERRL, MMM and OP clear
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic,
   No(t) Diastolic), RRR
   Respiratory / Chest: (Expansion: Symmetric), bilateral dry crackles
   throughout
   Abdomen: +BS, soft, tender below the umbilicus in area of hernia, no
   rebound or guarding
   Skin:  no rash
   Labs / Radiology
   294 K/uL
   8.9 g/dL
   154 mg/dL
   0.7 mg/dL
   29 mEq/L
   4.3 mEq/L
   19 mg/dL
   96 mEq/L
   130 mEq/L
   26.0 %
   7.0 K/uL
        [image002.jpg]
                             [**2129-1-14**]  03:30 AM
                             [**2129-1-14**]  06:40 AM
                             [**2129-1-15**]  04:22 AM
                             [**2129-1-16**]  02:18 AM
                             [**2129-1-16**]  09:47 PM
                             [**2129-1-16**]  10:25 PM
                             [**2129-1-17**]  02:54 AM
                             [**2129-1-18**]  03:16 AM
                             [**2129-1-19**]  04:18 AM
                             [**2129-1-20**]  05:22 AM
   WBC
   8.4
   9.4
   12.4
   10.3
   10.6
   7.0
   Hct
   28.5
   27.9
   27.8
   28.1
   27.5
   26.0
   Plt
   181
   189
   194
   [**Telephone/Fax (3) 5011**]
   Cr
   0.7
   0.6
   0.7
   0.6
   0.6
   0.6
   0.5
   0.7
   TCO2
   34
   Glucose
   119
   110
   119
   137
   115
   124
   162
   154
   Other labs: PT / PTT / INR:16.5/31.9/1.5, CK / CKMB /
   Troponin-T:265/5/<0.01, ALT / AST:15/46, Alk Phos / T Bili:90/0.7,
   Amylase / Lipase:20/11, Differential-Neuts:80.1 %, Band:0.0 %,
   Lymph:11.6 %, Mono:6.9 %, Eos:1.1 %, Lactic Acid:2.0 mmol/L,
   Albumin:2.9 g/dL, LDH:186 IU/L, Ca++:8.3 mg/dL, Mg++:2.0 mg/dL, PO4:3.4
   mg/dL
   Assessment and Plan
   72 y/o gentleman with CHF Afib with RVR with hypoxia from RSV PNA,
   idiopathic pulmonary fibrosis, and pulmonary edema off Abx on Lasix.
   Patient has h/o gastric ulcer bleed s/p surgery, CAD, HTN, HCV admitted
   with BRBPR, now transfered back to MICU for Afib with RVR with
   complication of RSV pneumonia and worsening IPF.
   .
   # Hypoxia
 Most likely due to accelerated IPF with some contribution
   from RSV pneumonia.  Oxygen requirements have remained stable recently,
   though waxes and wanes throughout the day.  Previously during this
   admission patient was diuresed with lasix and treated with
   Vanc/Ceftriaxone for GPCs in pair and clusters in sputum. AFB negative
   x3, no concern for TB.  LENIs show no DVT and CTA no PE.  However, CTA
   does show worsening of fibrotic disease. Continue to hold abx and give
   supportive tx.
   - cont. solumedrol 125 mg Q8H for IPF (D1 = [**1-18**]), transition to slow
   steroid taper with prednisone starting with 60mg, will need prednisone
   >50mg for the next 5 days [**12-20**] P jiroveci
   - B glucan positive, so will treat for P jiroveci with Mepron as sulfa
   allergy (no Bactrim)
   - will investigate for PFO, as could be contributing in setting of R>L
   shunt
   -Cont Combivent nebs
   - Check ABG and EKG
   .
   # H/o fevers
 Had resolved but patient spiked to 100.5 overnight.
   Recultured
   - f/u blood, sputum, stool, urine
 neg. to date
   - likely related to RSV PNA, but could have contribution with P
   jiroveci
   .
   # Afib with RVR. In NSR now. PO dilt decreased to 60 mg QID due to
   relative hypotension and dose held this morning for hypotension.
   Continues on metoprolol 12.5mg PO BID. TSH elevated, however considered
   to be sick euthyroid. Echo showed normal ejection fraction and no
   evidence of structural heart disease.
   - cont dilt 60 mg qid and metoprolol 12. 5 mg [**Hospital1 **], as BP permits
   - BPs stable
   - consider anticoagulation in the long run; will need to discuss with
   GI given h/o GIB
   .
   # Relative hypotension. Limiting Dilt and Metoprolol therapy for A
   fib
   - likely in setting of nodal blockade for afib.
   - no diuresis at this time as clinically appears somewhat dry
   .
   # chronic pain disorder
 started tramadol on [**1-14**]. Patient has been on
   IV dilaudid chronically.
   - control with tramadol and diluadid PRN
   - Continue fentanyl patch 25 mcg/hr
   - back pain likely contributing to sciatica down L leg
   - some of leg pain may be related to superficial clots, will provide
   warm compresses to area
   .
   # h/o GIB: stable, CT showed colitis at the hepatic flexure to
   rectosigmoid junction. DDx includes ischemic, however large vessels
   were patent in prelim read of CT. Infectious suggestive on CT scan and
   inflammatory also on the differential. GI following.  No transfusions
   required with continued stable hematocrit, although trending downward
   steadily.
   - stable, now checking only daily hcts
   - continue to trend Hct, tx for hct <25
   - IV PPI [**Hospital1 **]
   - monitor hemodynamically and maintain access.
   .
   #Colitis: see above. Possible ischemic vs infectious, although in
   setting afib more likely ischemic. Further workup did not support this
   and the abdominal pain appears to be from chronic pain disorder.
   - colonoscopy as inpatient v. outpatient to evaluate per GI
   - stopping antibiotics
   - c.diff and other stool cultures neg
   - on reg diet
   .
   # Hyponatremia
 likely from SIADH; improving with fluid restriction,
   but down from 133 -> 130, will follow
   - fluid restriction for now
   - Trend Na
     .
   # Hep C infection: Pt states he has a history of hep c.  likely cause
   of elevated INR, not actively bleeding, does not need to be reversed;
   liver on CT scan is unremarkable
   - HCV VL 3 million
   .
   # h/o CAD: CP c/w chronic angina symptoms. EKG without any acute
   changes except had demand ischemia when in afib with high rates, repeat
   EKGs were normal.  Patient completed ROMI.
   - on ASA.
   .
   # FEN: fluid restricted and reg diet; checking finger sticks and giving
   ss insulin given high dose steroids
   .
   # PPx: Hep SQ, PPI IV BID
   .
   # Access: PICC [**1-12**]
   .
   # Code: DNR/DNI; cont to speak with family re: future treatment plan
   .
   # Dispo: ICU for now pending further discussions of patient
s wishes.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2129-1-9**] 12:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2129-01-20 12:02:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure--Hypoxemia
   RSV pneumonia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   -Patient with acute hypoxemia this morning with drop in saturations to
   77% acutely and with minimal response to increased FIO2
   History obtained from [**Hospital 19**] Medical records
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Cardiovascular: No(t) Tachycardia
   Respiratory: Tachypnea
   Genitourinary: Foley
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2129-1-20**] 11:50 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 35.6
C (96
   Tcurrent: 35.6
C (96
   HR: 82 (68 - 86) bpm
   BP: 102/57(68) {80/45(55) - 129/79(89)} mmHg
   RR: 21 (14 - 30) insp/min
   SpO2: 87%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                    820 mL
                                                                    440 mL
   PO:
                                                                    580 mL
                                                                    350 mL
   TF:
   IVF:
                                                                    240 mL
                                                                     90 mL
   Blood products:
   Total out:
                                                                  1,285 mL
                                                                    400 mL
   Urine:
                                                                  1,285 mL
                                                                    400 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -465 mL
                                                                     40 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula, High flow neb
   SpO2: 87%
   ABG: ///29/
   Physical Examination
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Trace
   Skin:  Not assessed
   Neurologic: Responds to: Verbal stimuli, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   9.0 g/dL
   429 K/uL
   154 mg/dL
   0.7 mg/dL
   29 mEq/L
   4.3 mEq/L
   19 mg/dL
   96 mEq/L
   130 mEq/L
   26.8 %
   12.4 K/uL
        [image002.jpg]
                             [**2129-1-14**]  03:30 AM
                             [**2129-1-14**]  06:40 AM
                             [**2129-1-15**]  04:22 AM
                             [**2129-1-16**]  02:18 AM
                             [**2129-1-16**]  09:47 PM
                             [**2129-1-16**]  10:25 PM
                             [**2129-1-17**]  02:54 AM
                             [**2129-1-18**]  03:16 AM
                             [**2129-1-19**]  04:18 AM
                             [**2129-1-20**]  05:22 AM
   WBC
   8.4
   9.4
   12.4
   10.3
   10.6
   7.0
   12.4
   Hct
   28.5
   27.9
   27.8
   28.1
   27.5
   26.0
   26.8
   Plt
   181
   189
   194
   [**Telephone/Fax (3) 5011**]
   429
   Cr
   0.7
   0.6
   0.7
   0.6
   0.6
   0.6
   0.5
   0.7
   TCO2
   34
   Glucose
   119
   110
   119
   137
   115
   124
   162
   154
   Other labs: PT / PTT / INR:16.5/31.9/1.5, CK / CKMB /
   Troponin-T:265/5/<0.01, ALT / AST:15/46, Alk Phos / T Bili:90/0.7,
   Amylase / Lipase:20/11, Differential-Neuts:80.1 %, Band:0.0 %,
   Lymph:11.6 %, Mono:6.9 %, Eos:1.1 %, Lactic Acid:2.0 mmol/L,
   Albumin:2.9 g/dL, LDH:186 IU/L, Ca++:8.3 mg/dL, Mg++:2.0 mg/dL, PO4:3.4
   mg/dL
   Assessment and Plan
   72 yo male with CHF, A-Fib c/p RVR and admitted with RSV and pulmonary
   edema contributing to respiratory distress in the setting of A-fib with
   RVR.  He did have some response to diuresis transiently but has
   returned to significant respiratory distress/hypoxemia this morning.
   This is with preserved lung sounds throughout with patient having
   pulmonary crackles unchanged
this would argue against significant new
   collapse or effusion.  It may well be small area of collapse leading to
   shunt transiently worsening.  Alternatively patient may have PE or R
   shunt worsening transiently this morning.
   1)Hypoxemia
Will need
   -ABG this morning
   -ECG this morning
   -CXR in follow up
   -Will re-evalaute known findings in regards to ECHO and consideration
   of R
L intra-cardiac shunt as contributor to persistent and somewhat
   refractory hypoxemia
   -In addition
   Albuterol
   Solumedrol 250mg q 8 hours continuing
   Additional issues to be addressed as defined in the resident note of
   this date
   ICU Care
   Nutrition: po diet
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2129-1-9**] 12:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR/DNI
   Disposition :ICU
will need to establish long term plan for his care in
   the setting of severe, possibly, end stage lung disease
   Total time spent: 65 minutes

2129-01-21 06:54:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: BRBPR
   24 Hour Events:
   - Had an episode of acute hypoxia, O2 sat in 70s on non-rebreather.
   CXR: no discernable change, although very difficult to detect small PNA
   in the setting of IPF. ABG: 7.48/38/46. O2 sat recovered to upper 80s.
   - Beta glucan positive; Atorvaquone started for PCP.
   [**Name Initial (NameIs) **] Discussion with family on going.
   - Had another episode of hypoxia with O2 sat into low 70s on
   non-rebreather overnight.  Did not want BiPAP or further ventilatory
   support but did request additional morphine for comfort.
   - patient placed on morphine gtt
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Morphine Sulfate - 4 mg/hour
   Other ICU medications:
   Lorazepam (Ativan) - [**2129-1-21**] 04:25 AM
   Morphine Sulfate - [**2129-1-21**] 04:41 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2129-1-21**] 06:53 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.1
C (96.9
   Tcurrent: 36
C (96.8
   HR: 108 (70 - 118) bpm
   BP: 113/57(68) {89/48(50) - 143/119(125)} mmHg
   RR: 19 (14 - 29) insp/min
   SpO2: 73%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                    830 mL
                                                                     71 mL
   PO:
                                                                    590 mL
             TF:
   IVF:
                                                                    240 mL
                                                                     71 mL
   Blood products:
   Total out:
                                                                  1,180 mL
                                                                      0 mL
   Urine:
                                                                  1,180 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -350 mL
                                                                     71 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 73%
   ABG: 7.48/38/46//4
   PaO2 / FiO2: 46
   Physical Examination
   General Appearance: Appears tired, groaning, not alert
   Eyes / Conjunctiva: PERRL, MMM and OP clear
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic,
   No(t) Diastolic), RRR
   Respiratory / Chest: (Expansion: Symmetric), bilateral dry crackles
   throughout
   Abdomen: +BS, soft, tender below the umbilicus in area of hernia, no
   rebound or guarding
   Skin:  no rash
   Labs / Radiology
   429 K/uL
   9.0 g/dL
   154 mg/dL
   0.7 mg/dL
   29 mEq/L
   4.3 mEq/L
   19 mg/dL
   96 mEq/L
   130 mEq/L
   26.8 %
   12.4 K/uL
        [image002.jpg] LABS from [**2129-1-20**]; none from today
                             [**2129-1-14**]  06:40 AM
                             [**2129-1-15**]  04:22 AM
                             [**2129-1-16**]  02:18 AM
                             [**2129-1-16**]  09:47 PM
                             [**2129-1-16**]  10:25 PM
                             [**2129-1-17**]  02:54 AM
                             [**2129-1-18**]  03:16 AM
                             [**2129-1-19**]  04:18 AM
                             [**2129-1-20**]  05:22 AM
                             [**2129-1-20**]  12:00 PM
   WBC
   9.4
   12.4
   10.3
   10.6
   7.0
   12.4
   Hct
   27.9
   27.8
   28.1
   27.5
   26.0
   26.8
   Plt
   181
   189
   194
   [**Telephone/Fax (3) 5011**]
   429
   Cr
   0.6
   0.7
   0.6
   0.6
   0.6
   0.5
   0.7
   TCO2
   34
   29
   Glucose
   110
   119
   137
   115
   124
   162
   154
   CXR [**1-20**]: FINDINGS: In comparison with the earlier study of this date,
   there is no interval change in the diffuse prominence of interstitial
   markings consistent with IPF. Again, detecting a small pneumonia would
   be extremely difficult. Left central catheter tip extends to the mid to
   lower portion of the SVC.
   Assessment and Plan
   72 y/o gentleman with CHF Afib with RVR with hypoxia from RSV PNA,
   idiopathic pulmonary fibrosis, and pulmonary edema off Abx on Lasix.
   Patient has h/o gastric ulcer bleed s/p surgery, CAD, HTN, HCV admitted
   with BRBPR, now transfered back to MICU for Afib with RVR with
   complication of RSV pneumonia and worsening IPF.
   .
   # Hypoxia
 Most likely due to accelerated IPF with some contribution
   from RSV pneumonia.  B-glucan positive now as well.  Oxygen
   requirements have increased and patient has declined further
   respiratory support.  Previously during this admission patient was
   diuresed with lasix and treated with Vanc/Ceftriaxone for GPCs in pair
   and clusters in sputum. AFB negative x3, no concern for TB.  LENIs show
   no DVT and CTA no PE.  However, CTA does show worsening of fibrotic
   disease. Continue to hold abx and give supportive tx.
   - cont. solumedrol 125 mg Q8H for IPF (D1 = [**1-18**]), transition to slow
   steroid taper with prednisone starting with 60mg, will need prednisone
   >50mg for the next 5 days [**12-20**] P jiroveci
   - B glucan positive, so will treat for P jiroveci with Mepron as sulfa
   allergy (no Bactrim)
   - Cont Combivent nebs
   - morphine gtt for comfort
   .
   # H/o fevers
 Afebrile.
   - f/u blood, sputum, stool, urine
 neg. to date
   - likely related to RSV PNA, but could have contribution with P
   jiroveci
   .
   # Afib with RVR. In NSR now. PO dilt decreased to 60 mg QID due to
   relative hypotension and dose held this morning for hypotension.
   Continues on metoprolol 12.5mg PO BID. TSH elevated, however considered
   to be sick euthyroid. Echo showed normal ejection fraction and no
   evidence of structural heart disease.
   - cont dilt 60 mg qid and metoprolol 12. 5 mg [**Hospital1 **], as BP permits; if
   patient does not tolerate POs will hold these meds
   - BPs stable
   .
   # Relative hypotension. Limiting Dilt and Metoprolol therapy for A
   fib
   - likely in setting of nodal blockade for afib.
   - no diuresis at this time as clinically appears somewhat dry
   .
   # chronic pain disorder
 started tramadol on [**1-14**]. Patient has been on
   IV dilaudid chronically.  Written for tramadol and dilauded and
   fentanyl patch started [**1-20**]
   - morphine now for respiratory distress and comfort
   .
   # h/o GIB: stable, CT showed colitis at the hepatic flexure to
   rectosigmoid junction. DDx includes ischemic, however large vessels
   were patent in prelim read of CT. Infectious suggestive on CT scan and
   inflammatory also on the differential. GI following.  No transfusions
   required with continued stable hematocrit, although trending downward
   steadily.
   - stable, now checking only daily hcts
   - continue to trend Hct, tx for hct <25
   - IV PPI [**Hospital1 **]
   - monitor hemodynamically and maintain access.
   .
   #Colitis: see above. Possible ischemic vs infectious, although in
   setting afib more likely ischemic. Further workup did not support this
   and the abdominal pain appears to be from chronic pain disorder.
   - colonoscopy as inpatient v. outpatient to evaluate per GI
   - stopping antibiotics
   - c.diff and other stool cultures neg
   - on reg diet
   .
   # Hyponatremia
 likely from SIADH; improving with fluid restriction,
   but down from 133 -> 130, will follow
   - fluid restriction for now
   - Trend Na
     .
   # Hep C infection: Pt states he has a history of hep c.  likely cause
   of elevated INR, not actively bleeding, does not need to be reversed;
   liver on CT scan is unremarkable
   - HCV VL 3 million
   .
   # h/o CAD: CP c/w chronic angina symptoms. EKG without any acute
   changes except had demand ischemia when in afib with high rates, repeat
   EKGs were normal.  Patient completed ROMI.
   - on ASA.
   .
   # FEN: fluid restricted and reg diet though not eating presently as
   mental status does not allow; checking finger sticks and giving ss
   insulin given high dose steroids
   .
   # PPx: Hep SQ, PPI IV BID
   .
   # Access: PICC [**1-12**]
   .
   # Code: DNR/DNI; Patient is at the end of his life.  Call placed to
   family last night and continuing to try to reach them.
   .
   # Dispo: ICU for now, will likely die within the next day or two.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2129-1-9**] 12:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: